### PR TITLE
AArch64 Information Flow

### PR DESCRIPTION
**Pull request by ryybrr**
Completed information flow proofs for AARCH64. Please see c10da233dcc2cd3c69d18a4b43fb4459a783f3ba when reviewing the non-interference proofs and 8f7e892169142c84f54fda5699840d60304659ad when reviewing the refinement proofs, as these provide the most minimal diffs. The main additions are:

- An `equiv_hyp` relation equating VCPU machine/architectural state. The equivalence is only enforced when the current VCPU, if it exists, belongs to the domain under consideration. Certain fields need only be equivalent when the VCPU is active.
- An `equiv_fpu` relation equating FPU machine state. The equivalence is only enforced when the current FPU belongs to the domain under consideration.

### CODE REVIEW

**Comment by wsun-code** [comment]
Hello! I am caring about this pr because I want to integrate this into the seL4 deployment in my company.

It is known that Isabelle version updates break proofs often. What Isabelle version should I use to run isabelle build on these? I tried Isabelle2025 but it errors.

**Comment by lsf37** [comment]
> Hello! I am caring about this pr because I want to integrate this into the seL4 deployment in my company.

I'd recommend waiting until this PR is merged, because cleanup is still in progress and while that happens the proofs might break in between (as happened just now). Should be at most another week or two.

> It is known that Isabelle version updates break proofs often. What Isabelle version should I use to run isabelle build on these? I tried Isabelle2025 but it errors.

If you follow the setup instructions in https://github.com/seL4/l4v/blob/master/docs/setup.md you will get the correct Isabelle version automatically. You will also get the seL4 version the proof applies to. (To get the proofs in this PR , after the repo checkout, you need to go into the `l4v` directory and check out the PR branch -- but as mentioned above, I'd recommend just waiting until it is merged, then this step is not needed and the proofs will definitely work).

The current version this repo is using is Isabelle2025, but we may change to Isabelle2025-2 in the next month or two.

**Comment by wsun-code** [comment]
Hi! This is my first contribution to L4.verified. 
[This PR](https://github.com/seL4/l4v/pull/1026) fixes the build error I encountered in ArchArch_IF.thy. It’s a small two‑line change, so it should be easy to review.
Thanks to @lsf37 for helping me set up the development environment. I verified the fix by running isabelle build and confirming that ArchArch_IF.thy now passes. Please let me know if you have any questions.

File: proof/access-control/AARCH64/ArchArch_AC.thy [hunk 1]
```diff
@@ -2164,13 +2164,66 @@ lemma vcpu_proj_arch_state_update[simp]:
...
+
+lemma vcpu_save_extra_lrs[wp]:
+  "vcpu_save vr \<lbrace>\<lambda>s. P (vcpu_extra_lrs (arm_gicvcpu_numlistregs (arch_state s)) (vcpus_of s x))\<rbrace>"
+  unfolding vcpu_save_def
+  apply clarsimp
+  apply wpsimp
+apply (rule_tac Q'="\<lambda>_ s.
+(P (vcpu_extra_lrs (arm_gicvcpu_numlistregs (arch_state s)) (vcpus_of s x)) \<and>
+num_list_regs = arm_gicvcpu_numlistregs (arch_state s)) \<and>
+ (\<forall>r \<in> set [0..<num_list_regs]. r < arm_gicvcpu_numlistregs (arch_state s))" in hoare_strengthen_post[rotated], clarsimp)
```
Comment (lsf37) [inline proof/access-control/AARCH64/ArchArch_AC.thy]: indent accident

File: proof/access-control/AARCH64/ArchArch_AC.thy [hunk 2]
```diff
@@ -2164,13 +2164,66 @@ lemma vcpu_proj_arch_state_update[simp]:
...
    vcpu_switch vr
    \<lbrace>\<lambda>_. integrity_hyp aag subjects x st\<rbrace>"
   unfolding integrity_hyp_def vcpu_integrity_def vcpu_switch_def vcpu_proj_of_state
+  apply (rule hoare_weaken_pre)
+   apply (rule hoare_vcg_conj_lift, solves wpsimp)
+   apply (rule hoare_vcg_imp_lift, solves wpsimp)
+   apply (rule hoare_vcg_conj_lift, solves wpsimp)
   supply if_split[split del] if_split[where P="\<lambda>v. _ = v", simp]
-  apply (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift' | wp dmo_lift_vcpu_proj)+
+   apply ((wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift' | wp dmo_lift_vcpu_proj)+)[1]
```
Comment (lsf37) [inline proof/access-control/AARCH64/ArchArch_AC.thy]: the `supply` should be on the same level as the `apply` statements

File: proof/access-control/Access_AC.thy [hunk 3]
```diff
@@ -637,15 +638,49 @@ lemma tro_alt_trans_spec: (* this takes a long time to process *)
              | time_methods \<open>fastforce intro: integrity_obj_alt.intros
                                         simp: arch_tro_alt_trans_spec\<close>\<close>)
 
+  prefer 37
+                                              apply (erule tro_alt_tcb_generic)
+apply ((assumption | rule refl
+                    | ((erule exE)+)?, (rule exI)?, force intro: tcb.equality)+)[3]
+                                                  apply clarsimp
+                                                  apply (metis reply_cap_deletion_integrityE tcb_bound_notification_reset_integrity_def)
```
Comment (lsf37) [inline proof/access-control/Access_AC.thy]: This proof section (also below) still needs some cleanup. It looks like this was already pretty terrible before, but there also seem to be some experiments left in here (e.g. in time_methods, although that also seems old, so maybe not). If we're repeating the `assumption|refl|etc` pattern a lot, it might make sense to give it a local name with `supply_local_method`.

Comment (ryybrr) [reply proof/access-control/Access_AC.thy]: Thanks for the flag, looks like I missed the AC cleanup

**Comment by Xaphiosis** [comment]
I spent a while hunting which commit the changes came from for the infoflow refine interfaces... would be nice to get a bit more commit text for the relevant `aarch64 infoflow: prove refinement`.
Since I'm yoinking some of this to fix arch-split (with attribution and big thanks), you might also get some merge conflict from that, but I tried to keep it minimal. Will start reviewing properly once the arch-split PR is up.

File: proof/infoflow/AARCH64/ArchCNode_IF.thy [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+  "arch_globals_equiv ct it kh kh' as as' ms (irq_state_update f ms') =
+   arch_globals_equiv ct it kh kh' as as' ms ms'"
+  "arch_globals_equiv ct it kh kh' as as' (irq_state_update f ms) ms' =
+   arch_globals_equiv ct it kh kh' as as' ms ms'"
+  by auto
+
+end
+
+
+requalify_consts AARCH64.irq_at
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchCNode_IF.thy]: This seems unorthodox. Where is it used generically? Should there be a general import there instead?

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 5]
```diff
@@ -0,0 +1,432 @@
...
+  apply (subst (3) asid_high_bits_of_shift[symmetric])
+  apply (rule requiv_arm_asid_table_asid_high_bits_of_asid_eq'')
+    apply (clarsimp simp: aag_cap_auth_def cap_links_asid_slot_def label_owns_asid_slot_def)
+    apply (rule pas_refined_Control_into_is_subject_asid, blast+)
+  done
+
+lemma decode_asid_pool_invocation_reads_respects_f:
+  notes reads_respects_f_inv' = reads_respects_f_inv[where st=st]
+  notes whenE_wps[wp_split del]
+  shows
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:104]: Probably old or copy/pasted, but you can avoid the `notes`/`shows` dance by using `supply `with the same things that are in `notes`.

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 6]
```diff
@@ -0,0 +1,432 @@
...
+     apply fastforce
+    apply (simp add: reads_equiv_f_def)
+   apply blast
+  apply (fastforce simp: aag_cap_auth_ASIDPoolCap)
+  done
+
+lemma decode_asid_control_invocation_reads_respects_f:
+  notes reads_respects_f_inv' = reads_respects_f_inv[where st=st]
+  notes whenE_wps[wp_split del]
+  shows
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:135]: (more of that pattern a few times)

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 7]
```diff
@@ -0,0 +1,432 @@
...
+  by wpsimp
+
+lemma decode_smc_invocation_reads_respects_f[wp]:
+  "reads_respects_f aag l \<top> (decode_smc_invocation label args cap)"
+  unfolding decode_smc_invocation_def
+  by (wpsimp simp: unlessE_whenE)
+
+lemma arch_decode_invocation_reads_respects_f[Decode_IF_assms]:
+  notes reads_respects_f_inv' = reads_respects_f_inv[where st=st]
+  notes whenE_wps[wp_split del]
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy]: We seem to be removing the `whenE` rules quite a lot. Is there something specific that is going wrong with them?

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+
+subsection \<open>VCPU equivalence\<close>
+
+(* FIXME AARCH64 IF: move *)
+locale_abbrev numlistregs :: "'s state \<Rightarrow> nat" where
+  "numlistregs s \<equiv> arm_gicvcpu_numlistregs (arch_state s)"
+
+(* FIXME AARCH64 IF: move *)
+locale_abbrev current_vcpu :: "'s state \<rightharpoonup> obj_ref \<times> bool" where
+  "current_vcpu s \<equiv> arm_current_vcpu (arch_state s)"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy:62]: Should we do this move before we merge?  To ASpec or AInvs?

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 9]
```diff
@@ -0,0 +1,135 @@
...
+
+definition hw_vcpu ::
+  "nat \<Rightarrow> bool option \<Rightarrow> vcpu_state \<rightharpoonup> vcpu_state"
+where
+  "hw_vcpu n cv vcpu \<equiv> case cv of
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy]: This looks like type + `where` fit on one line with the definition, otherwise the `where` should be indented

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 10]
```diff
@@ -0,0 +1,135 @@
...
+       \<lparr>vcpu_vgic = \<lparr>vgic_hcr = if \<not>enabled then undefined else vgic_hcr (vcpu_vgic vcpu),
+                     vgic_vmcr = vgic_vmcr (vcpu_vgic vcpu),
+                     vgic_apr = vgic_apr (vcpu_vgic vcpu),
+                     vgic_lr = \<lambda>r. if r < n then vgic_lr (vcpu_vgic vcpu) r else undefined\<rparr>,
+        vcpu_regs = \<lambda>r. if \<not>enabled \<and> vcpuRegSavedWhenDisabled r
+                        then undefined
+                        else vcpu_regs vcpu r\<rparr>"
+
+locale_abbrev hw_vcpu_of where
+  "hw_vcpu_of s p \<equiv> hw_vcpu (numlistregs s) (cur_vcpu_of s p) (vcpu_state (machine_state s))"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy]: please add a type

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 11]
```diff
@@ -0,0 +1,135 @@
...
+definition equiv_fpu :: "(obj_ref \<Rightarrow> bool) \<Rightarrow> det_state \<Rightarrow> det_state \<Rightarrow> bool" where
+  "equiv_fpu P s s' \<equiv> equiv_for P hw_fpu_of s s'"
+
+
+subsection \<open>Global (Kernel) VSpace equivalence\<close>
+(* globals_equiv should be maintained by everything except the scheduler, since
+   nothing else touches the globals frame *)
+
+definition arch_globals_equiv :: "obj_ref \<Rightarrow> obj_ref \<Rightarrow> kheap \<Rightarrow> kheap \<Rightarrow> arch_state \<Rightarrow>
+                                  arch_state \<Rightarrow> machine_state \<Rightarrow> machine_state \<Rightarrow> bool" where
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy]: possibly old, but we should adjust the styling here to fit with the style guide

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 12]
```diff
@@ -249,15 +266,8 @@ lemma requiv_arm_asid_table_asid_high_bits_of_asid_eq:
...
-lemma set_vm_root_states_equiv_for[wp]:
-  "set_vm_root thread \<lbrace>states_equiv_for P Q R S st\<rbrace>"
-  unfolding set_vm_root_def catch_def fun_app_def
-  by (wpsimp wp: do_machine_op_mol_states_equiv_for
-                 hoare_vcg_all_lift whenE_wp hoare_drop_imps
-           simp: setVSpaceRoot_def dmo_bind_valid if_apply_def2)+
-
 lemma find_vspace_for_asid_reads_respects:
-   "reads_respects aag l (K (asid \<noteq> 0 \<and> aag_can_read_asid aag asid)) (find_vspace_for_asid asid)"
+   "reads_respects aag l (K ( aag_can_read_asid aag asid)) (find_vspace_for_asid asid)"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: stray space before `aag_..`

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 13]
```diff
@@ -1003,15 +1044,23 @@ lemma perform_pg_inv_unmap_globals_equiv:
...
-  by (wp mapM_swp_store_pte_globals_equiv hoare_vcg_all_lift mapM_x_swp_store_pte_globals_equiv
-         set_cap_globals_equiv'' unmap_page_globals_equiv store_pte_globals_equiv
+  unfolding perform_pg_inv_map_def cleanByVA_PoU_def
+  apply (wp mapM_swp_store_pte_globals_equiv hoare_vcg_all_lift mapM_x_swp_store_pte_globals_equiv
+         set_cap_globals_equiv' unmap_page_globals_equiv store_pte_globals_equiv
          store_pte_globals_equiv hoare_weak_lift_imp set_message_info_globals_equiv
-         unmap_page_valid_arch_state perform_pg_inv_get_addr_globals_equiv
-      | wpc | simp add: do_machine_op_bind sfence_def | fastforce)+
+          perform_pg_inv_get_addr_globals_equiv
+      | wpc | simp add: do_machine_op_bind | rule conjI; rule impI, wp hoare_drop_imps)+
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: the indentation here should follow the conversion from `by` to `apply` (the `| wpc ...` should be inside the main parentheses)

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 14]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+
+
+(* FIXME AARCH64 IF: reads_respects and reads_respects_scheduler proofs are too specific to reuse.
+   To allow reuse, we introduce a more generic equiv_valid relation over states_equiv_for_labels.
+   Unfortunately, this means recreating much of the existing infrastructure. *)
+
+locale_abbrev reads_respects_l_2 where
+  "reads_respects_l_2 aag L \<equiv> equiv_valid_2 (\<lambda>_ _. True) (states_equiv_for_labels aag L) (states_equiv_for_labels aag L)"
+
+locale_abbrev reads_respects_l where
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: Is the `_l` for `labels`? Probably worth spelling out explicitly in the comment.

Type annotations would be good as well.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 15]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  "reads_respects_l aag L \<equiv> equiv_valid_inv (\<lambda>_ _. True) (states_equiv_for_labels aag L)"
+
+lemma reads_respects_l_2_invisible:
+  "\<lbrakk> modifies_at_most aag {l. \<not>L l} Q f; modifies_at_most aag {l. \<not>L l} Q' g;
+     \<And>P. f \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace>; \<And>P. g \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace>;
+     \<forall>s t. P s \<and> P' t \<longrightarrow> (\<forall>(rva,s') \<in> fst (f s). \<forall>(rvb,t') \<in> fst (g t). R rva rvb) \<rbrakk>
+     \<Longrightarrow> reads_respects_l_2 aag L R (P and Q) (P' and Q') f g"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: standard style is the `==>` at the same indent as `[|` or on the right in the previous line. (also below)

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 16]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+             simp: equiv_valid_def2 equiv_valid_2_def roa_equiv_def2
+                   reads_equiv_for_labels affects_equiv_for_labels )
+
+lemma reads_respects_from_labels:
+  assumes ev: "\<And>L. reads_respects_l aag L P f"
+    and inv: "\<And>P. f \<lbrace>\<lambda>s. P (cur_domain s)\<rbrace>"
+    "\<And>P. f \<lbrace>\<lambda>s. P (cur_thread s)\<rbrace>"
+    "\<And>P. f \<lbrace>\<lambda>s. P (scheduler_action s)\<rbrace>"
+    "\<And>P. f \<lbrace>\<lambda>s. P (work_units_completed s)\<rbrace>"
+    "\<And>P. f \<lbrace>\<lambda>s. P (irq_state_of_state s)\<rbrace>"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1409]: indent under the first prop (after `inv: `)

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 17]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+
+lemma reads_respects_def2:
+  "reads_respects aag l P f \<longleftrightarrow> equiv_valid_inv roa_inv (roa_equiv aag l) P f"
+  by (auto intro!: iff_allI
+             simp: equiv_valid_def2 equiv_valid_2_def roa_equiv_def2
+                   reads_equiv_for_labels affects_equiv_for_labels )
+
+lemma reads_respects_from_labels:
+  assumes ev: "\<And>L. reads_respects_l aag L P f"
+    and inv: "\<And>P. f \<lbrace>\<lambda>s. P (cur_domain s)\<rbrace>"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: Indented `and` only makes sense if it is done so that the right side aligns. No indent would also be fine.

File: proof/infoflow/AARCH64/ArchCNode_IF.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchCNode_IF.thy]: You shouldn't do it like this. This is saying "please put specifically the AARCH64 version into the generic context". We probably want `arch_requalify_consts irq_at` in a generic file instead.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 18]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  vcpu_save_hcr_def
+  vcpu_save_vmcr_def
+  vcpu_save_apr_def
+  vcpu_save_lr_def
+  vcpu_save_lrs_def
+
+
+(* FIXME AARCH64 IF: reads_respects and reads_respects_scheduler proofs are too specific to reuse.
+   To allow reuse, we introduce a more generic equiv_valid relation over states_equiv_for_labels.
+   Unfortunately, this means recreating much of the existing infrastructure. *)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1292]: One thing that makes it a bit messy here is that `reads_respects_l` and `reads_respects` lemmas seem to be interleaved/mixed below. It's not quite clear to me if they the depend on each other or if this is just how it ended up.

Would it make sense to try to extract the `_l` definition and proofs into their own theory? (either imported by or otherwise chained with `ArchArch_IF`, i.e. not as a full base library or something like that, just a bit more disentangled). It's not clear to me how much work that would be, though. If it's a lot then maybe we should merge this first and do that separately.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 19]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  done
+
+lemma arch_thread_get_tcb_vcpu_reads_respects[wp]:
+  "reads_respects aag l (K (aag_can_read aag t)) (arch_thread_get tcb_vcpu t)"
+  unfolding arch_thread_get_def
+  apply wpsimp
+  apply fastforce
+  done
+
+lemma gets_comp:
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:3198]: please add a FIXME move

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 20]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+end
+
+hide_fact as_user_globals_equiv
+
+context begin interpretation Arch .
+
+requalify_consts
+  authorised_for_globals_arch_inv
+
+requalify_facts
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: These should be `arch_requalify_*` instead. The lesson from Raf's arch split work is to generally avoid `interpretation Arch .` if we can.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 21]
```diff
@@ -1135,143 +1180,2360 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  arch_perform_invocation_globals_equiv
+  as_user_globals_equiv
+  prepare_thread_delete_st_tcb_at_halted
+  make_arch_fault_msg_inv
+  check_valid_ipc_buffer_inv
+  arch_tcb_update_aux2
+  arch_perform_invocation_reads_respects_g
+
+declare
+  arch_post_cap_deletion_valid_global_objs[wp]
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:3514]: These are in the `context begin .. Arch` block. They are now requalified, so these declarations should be outside the `context` block. (If you change them to arch_requalify that will happen naturally)

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 22]
```diff
@@ -66,6 +84,88 @@ lemma equiv_asids_triv[InfoFlow_IF_assms]:
...
+lemma equiv_hyp_sym[InfoFlow_IF_assms]:
+  "equiv_hyp P s t \<Longrightarrow> equiv_hyp P t s"
+  by (auto simp: equiv_hyp_def equiv_for_def)
+
+lemma equiv_hyp_trans[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_hyp P s t; equiv_hyp P t u \<rbrakk> \<Longrightarrow> equiv_hyp P s u"
+  by (fastforce simp: equiv_hyp_def equiv_for_def)
+
+lemma equiv_hyp_False[InfoFlow_IF_assms]:
+  "(\<And>x. P x \<Longrightarrow> False) \<Longrightarrow> equiv_hyp P x y"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: All these ==> False rules seem to suggest that there is a general weakening rule for `equiv_hyp`. Is that the case? Or is False a special case?

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 23]
```diff
@@ -66,6 +84,88 @@ lemma equiv_asids_triv[InfoFlow_IF_assms]:
...
+  by (auto simp: equiv_hyp_def equiv_for_def)
+
+lemma equiv_hyp_guard_imp[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_hyp P s s'; \<And>x. Q x \<Longrightarrow> P x \<rbrakk> \<Longrightarrow> equiv_hyp Q s s'"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:96]: ah, here it is, one line down :-). But then shouldn't we write the False rule as just `equiv_hyp False x y` and make the other one a generic trivial consequence?

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 24]
```diff
@@ -66,6 +84,88 @@ lemma equiv_asids_triv[InfoFlow_IF_assms]:
...
+  "equiv_hyp P s s"
+  by (auto simp: equiv_hyp_def equiv_for_def)
+
+lemma equiv_hyp_sym[InfoFlow_IF_assms]:
+  "equiv_hyp P s t \<Longrightarrow> equiv_hyp P t s"
+  by (auto simp: equiv_hyp_def equiv_for_def)
+
+lemma equiv_hyp_trans[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_hyp P s t; equiv_hyp P t u \<rbrakk> \<Longrightarrow> equiv_hyp P s u"
+  by (fastforce simp: equiv_hyp_def equiv_for_def)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:93]: there must be some Isabelle thing (locale) that defines what an equivalence relation is and that gives you all the standard lemmas from that. Then this could be a much smaller interface and we'd get a lot more lemmas for free. Maybe not for this PR, but probably worth opening an issue for.

The same probably does not exist for the weakening relation, but we could make one. At least if there is more than just the two lemmas we need from that.

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 25]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
       apply (wp wp_post_taut loadWord_inv | simp)+
   done
 
+definition cur_vcpu_for_2 where
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: type annotations are nice, we should use them :-)

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 26]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  "cur_vcpu_for_2 P cv \<equiv> case cv of
+     None \<Rightarrow> None
+   | Some (ptr,b) \<Rightarrow> if P ptr then Some b else None"
+
+locale_abbrev cur_vcpu_for where
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: (also type annotation)

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 27]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  "hw_vcpu n None vst = None"
+  by (simp add: hw_vcpu_def)
+
+definition equiv_hyp_state :: "nat \<Rightarrow> bool option \<Rightarrow> machine_state \<Rightarrow> machine_state \<Rightarrow> bool" where
+  "equiv_hyp_state n cv ms ms' \<equiv> hw_vcpu n cv (vcpu_state ms) = hw_vcpu n cv (vcpu_state ms')"
+
+definition equiv_fpu_state :: "bool \<Rightarrow> machine_state \<Rightarrow> machine_state \<Rightarrow> bool" where
+  "equiv_fpu_state cf ms ms' \<equiv> hw_fpu cf (fpu_state ms) = hw_fpu cf (fpu_state ms')"
+
+definition "no_hyp f \<equiv> \<forall>P. \<lbrace>\<lambda>s. P (vcpu_state s)\<rbrace> f \<lbrace>\<lambda>_ s. P (vcpu_state s)\<rbrace>"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: please add type annotation and `where`. Otherwise this becomes harder to find by grep.

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 28]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+   apply (clarsimp simp: cur_vcpu_of_def split: if_splits)
+  apply (clarsimp simp: cur_vcpu_for_Some)
+  done
+
+lemma aequiv_get_tcb_eq'[intro]:
+  "\<lbrakk> affects_equiv aag l s t; aag_can_affect aag l thread \<rbrakk>
+     \<Longrightarrow> get_tcb thread s = get_tcb thread t"
+  by (auto simp: affects_equiv_def2 get_tcb_def elim: states_equiv_forE_kheap)
+
+definition cur_fpu_for where
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: (type)

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 29]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+       \<Longrightarrow> identical_fpu_state_updates P s t ms ms'"
+  unfolding identical_fpu_state_updates_def
+  apply (clarsimp simp: identical_fpu_state_updates_def identical_updates_def)
+  apply (clarsimp simp: equiv_fpu_state_def equiv_for_def equiv_fpu_def)
+  apply (erule_tac x=x in allE, clarsimp)
+  apply (auto simp: cur_fpu_for_def hw_fpu_def get_tcb_def identical_updates_rv_def split: if_splits option.splits kernel_object.splits)
+  done
+
+definition numlistregs_for where
+  "numlistregs_for P s \<equiv> if \<exists>x. P x then numlistregs s else undefined"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: funky, but I can see how it is used. Should we make this a more general predicate that takes any `f` instead of `numlistregs`? Then this one can be an abbreviation.

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 30]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  unfolding do_machine_op_def spec_equiv_valid_def
+  supply equiv_for_disj[simp]
+  apply (rule equiv_valid_2_guard_imp)
+    apply (rule_tac R'="\<lambda>rv rv'. equiv_machine_state (aag_can_read aag or aag_can_affect aag l) rv rv' \<and>
+                                 equiv_irq_state rv rv' \<and>
+                                 equiv_hyp_state (numlistregs_for (aag_can_read aag or aag_can_affect aag l) st) (cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) st) rv rv' \<and>
+                                 equiv_fpu_state (cur_fpu_for (aag_can_read aag or aag_can_affect aag l) st) rv rv'"
+   and Q="\<lambda>r s. st = s \<and> Q (numlistregs_for (aag_can_read aag or aag_can_affect aag l) st) (cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) st) (cur_fpu_for (aag_can_read aag or aag_can_affect aag l) st) r"
+                and Q'="\<lambda>r s. Q (numlistregs_for (aag_can_read aag or aag_can_affect aag l) st) (cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) st) (cur_fpu_for (aag_can_read aag or aag_can_affect aag l) st) r"
+                and P="(=) st" and P'="\<top>" in equiv_valid_2_bind)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: line breaks

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 31]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+       apply (rule gen_asm_ev2_l[simplified K_def pred_conj_def])
+       apply (rule gen_asm_ev2_r')
+       apply (rule_tac R'="\<lambda>(r, ms') (r', ms''). r = r' \<and> equiv_machine_state (aag_can_read aag or aag_can_affect aag l) ms' ms''
+                                                        \<and> equiv_irq_state ms' ms''
+                                                        \<and> equiv_hyp_state (numlistregs_for (aag_can_read aag or aag_can_affect aag l) st) (cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) st) ms' ms''
+                                                        \<and> equiv_fpu_state (cur_fpu_for (aag_can_read aag or aag_can_affect aag l) st) ms' ms''"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: also line breaks (might be easier to break earlier higher up)

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 32]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  apply (wp | simp add: guard)+
+  using guard cur_fpu_for_equiv cur_vcpu_for_equiv numlistregs_for_equiv apply fastforce
+  done
+
+lemma do_machine_op_reads_respects'[InfoFlow_IF_assms]:
+  assumes equiv_dmo:
+    "equiv_valid_inv (equiv_machine_state (aag_can_read aag) and equiv_irq_state)
+                    (equiv_machine_state (aag_can_affect aag l)) Q f"
+  assumes guard:
+    "\<And>s. P s \<Longrightarrow> Q (machine_state s)"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: fits on line before

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 33]
```diff
@@ -109,10 +232,330 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  assumes no_hyp: "no_hyp f"
+  assumes no_fpu: "no_fpu f"
+  shows
+    "reads_respects aag l P (do_machine_op f)"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: fits one line before

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 34]
```diff
@@ -107,6 +109,114 @@ lemma integrity_asids_update_reference_state[Noninterference_assms]:
...
+  apply (prop_tac "valid_vcpu vcpu s")
+   apply (erule valid_objsE, simp, fastforce simp: valid_obj_def)
+  apply (prop_tac "valid_vcpu vcpu' s'")
+   apply (erule valid_objsE, simp, fastforce simp: valid_obj_def)
+  apply (prop_tac "vcpus_of s x = Some vcpu")
+   apply (clarsimp simp: opt_map_def)
+  apply (prop_tac "vcpus_of s' x = Some vcpu'")
+   apply (clarsimp simp: opt_map_def)
+  apply (prop_tac "integrity_obj (aag\<lparr>pasMayActivate := False, pasMayEditReadyQueues := False\<rparr>) False
+               {pasSubject aag} (pasObjectAbs aag x) (kheap s x) (kheap s' x)")
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indent (of 2nd line)

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 35]
```diff
@@ -140,20 +250,20 @@ qed
 
 lemma asid_pool_into_aag:
   "\<lbrakk> pool_for_asid asid s = Some p; kheap s p = Some (ArchObj (ASIDPool pool));
-     pool r = Some p'; pas_refined aag s \<rbrakk>
+      pool r = Some entry; ap_vspace entry = p'; pas_refined aag s \<rbrakk>
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: stray space at beginning of line?

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 36]
```diff
@@ -215,9 +331,196 @@ next
...
+
+declare cur_vcpu_for_None[simp]
+
+lemma cur_vcpu_of_None[simp]:
+  "cur_vcpu_of_2 None vst = None"
+  by (clarsimp simp: cur_vcpu_of_def)
+
+lemma partitionIntegrity_subjectAffects_numlistregs:
+  "\<lbrakk> partitionIntegrity aag s s' \<rbrakk>
+     \<Longrightarrow> equiv_for (\<lambda>x. pasObjectAbs aag x = da) (K \<circ> numlistregs) s s'"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: I can see that this indented `==>` style is used a lot in the old infoflow theories, but we shouldn't use it for new lemmas. (multiple more below)

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 37]
```diff
@@ -215,9 +331,196 @@ next
...
+qed
+
+declare cur_vcpu_for_None[simp]
+
+lemma cur_vcpu_of_None[simp]:
+  "cur_vcpu_of_2 None vst = None"
+  by (clarsimp simp: cur_vcpu_of_def)
+
+lemma partitionIntegrity_subjectAffects_numlistregs:
+  "\<lbrakk> partitionIntegrity aag s s' \<rbrakk>
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: (doesn't need the brackets)

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 38]
```diff
@@ -215,9 +331,196 @@ next
...
+      tcb' = tcb\<lparr>tcb_arch := new_arch\<rparr>;
+      arch_tcb_get_registers new_arch = arch_tcb_get_registers (tcb_arch tcb);
+      tcb_hyp_refs new_arch = tcb_hyp_refs (tcb_arch tcb);
+      current_fpu s \<noteq> Some x; current_fpu s' \<noteq> Some x \<rbrakk>
+     \<Longrightarrow> is_subject aag x \<or> kheap s x = kheap s' x"
+  apply clarsimp
+  apply (erule_tac P="tcb = tcb\<lparr>tcb_arch := new_arch\<rparr>" in swap)
+  apply (prop_tac "integrity_fpu
+            (aag\<lparr>pasMayActivate := False, pasMayEditReadyQueues := False\<rparr>)
+            {pasSubject aag} x s s'")
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indent

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 39]
```diff
@@ -282,31 +585,53 @@ lemma dmo_storeWord_reads_respects_g[Noninterference_assms, wp]:
    apply (rule ev_modify)
    apply (rule conjI)
     apply (fastforce simp: reads_equiv_g_def globals_equiv_def reads_equiv_def2 states_equiv_for_def
-                           equiv_for_def equiv_asids_def equiv_asid_def silc_dom_equiv_def upto.simps)
+                           equiv_for_def equiv_asids_def equiv_asid_def silc_dom_equiv_def upto.simps equiv_hyp_def equiv_fpu_def cur_fpu_for_def)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: line break

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 40]
```diff
@@ -147,7 +152,124 @@ proof goal_cases
...
+
+abbreviation (input) scheduler_can_read where
+  "scheduler_can_read aag l \<equiv> \<lambda>l'. l' \<in> reads_scheduler aag l"
+
+lemma domains_distinct_states_equiv_for_labels:
+  assumes domains_distinct: "pas_domains_distinct aag"
+  shows "states_equiv_for_labels aag L s s' = states_equiv_but_for_labels aag (not L) s s'"
+  apply (rule iffI)
+   apply (erule states_equiv_for_guard_imp)
+      apply clarsimp+
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: would a `; clarsimp` or `; clarsimp?` work here? Or maybe `, clarsimp+[1]`? Anything to fix the scope of the method so that it can't spill into independent goals if something breaks later.

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 41]
```diff
@@ -147,7 +152,124 @@ proof goal_cases
...
+  apply (insert domains_distinct, clarsimp simp: pas_domains_distinct_def)
+  apply (erule_tac x=x in allE)
+  apply clarsimp
+  done
+
+lemma scheduler_affects_equiv_def2:
+  assumes domains_distinct: "pas_domains_distinct aag"
+  shows
+  "scheduler_affects_equiv aag l s s' \<equiv>
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy:187]: If there's only one assumption, you don't need to give it a name, you can use `assms` in the goal to refer to it (if we need to name it at all).

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 42]
```diff
@@ -215,77 +348,462 @@ lemma store_cur_thread_fragment_midstrength_reads_respects:
...
+  "\<lbrakk> pasObjectAbs aag t \<notin> reads_scheduler aag l;
+     pas_refined aag s; valid_silc_label aag s; invs s;
+     get_tcb t s = Some tcb; tcb_vcpu (tcb_arch tcb) = Some vr \<rbrakk>
+    \<Longrightarrow> pasObjectAbs aag vr \<notin> reads_scheduler aag l"
+  apply (frule (2) tcb_controls_associated_vcpu)
+  apply (prop_tac "pasObjectAbs aag t \<noteq> SilcLabel")
+   apply (fastforce simp: valid_silc_label_def obj_at_def is_cap_table_def get_tcb_Some)
+  apply (drule (1) pas_refined_mem)
+  apply (drule aag_wellformed_Control)
+  using pwn apply (fastforce simp: pas_wellformed_noninterference_def)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: indent

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 43]
```diff
@@ -215,77 +348,462 @@ lemma store_cur_thread_fragment_midstrength_reads_respects:
...
+  done
+
+lemma tcb_controls_associated_vcpu:
+  "\<lbrakk> pas_refined aag s; get_tcb t s = Some tcb; tcb_vcpu (tcb_arch tcb) = Some v \<rbrakk>
+     \<Longrightarrow> (t, Control, v) \<in> state_objs_to_policy s"
+  by (fastforce simp: sbta_href state_objs_to_policy_def state_hyp_refs_of_def get_tcb_def
+                dest: pas_refined_mem is_subject_trans split: option.splits kernel_object.splits)+
+
+lemma associated_vcpu_invisible:
+  assumes nrs: "\<not> reads_scheduler_cur_domain aag l s"
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: is `nrs` unused below in the proof?

File: proof/infoflow/AARCH64/ArchSyscall_IF.thy [hunk 44]
```diff
@@ -65,18 +67,125 @@ lemma arch_mask_irq_signal_globals_equiv[Syscall_IF_assms, wp]:
...
+  done
+
 lemma handle_reserved_irq_globals_equiv[Syscall_IF_assms, wp]:
-  "handle_reserved_irq irq \<lbrace>globals_equiv st\<rbrace>"
-  unfolding handle_reserved_irq_def by wpsimp
+  "\<lbrace>globals_equiv st and invs\<rbrace> handle_reserved_irq irq \<lbrace>\<lambda>_. globals_equiv st\<rbrace>"
+  unfolding handle_reserved_irq_def
+  by wpsimp
+
+lemma gets_compE:
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchSyscall_IF.thy:118]: please add FIXME move

File: proof/infoflow/AARCH64/ArchSyscall_IF.thy [hunk 45]
```diff
@@ -8,6 +8,8 @@ theory ArchSyscall_IF
 imports Syscall_IF
 begin
 
+(* FIXME AARCH64 IF: clean and refactor theory *)
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchSyscall_IF.thy]: Is there really anything to clean and refactor left? Please go through these FIXMEs and kick out the ones that are done so that the remaining ones are more actionable.

File: proof/infoflow/InfoFlow_IF.thy [hunk 46]
```diff
@@ -989,23 +1069,114 @@ lemma invs_kernel_mappings:
...
+  "\<lbrakk> pas_refined aag s; etcbs_of s t = Some a \<rbrakk>
+     \<Longrightarrow> pasObjectAbs aag t \<in> pasDomainAbs aag (etcb_domain a)"
+  apply (clarsimp simp add: pas_refined_def tcb_domain_map_wellformed_aux_def)
+  apply (drule_tac x="(t,etcb_domain a)" in bspec)
+  apply (rule domtcbs)
+  apply force+
+  done
+
+(* FIXME AARCH64 IF: rename (assumes A is responsible for equal rvs) *)
+lemma equiv_valid_inv_split:
```
Comment (lsf37) [inline proof/infoflow/InfoFlow_IF.thy]: This sounds like one we should probably do before merge

File: proof/infoflow/Noninterference.thy [hunk 47]
```diff
@@ -634,10 +630,12 @@ locale Noninterference_1 =
   and integrity_fpu_update_reference_state:
    "is_subject aag t
     \<Longrightarrow> integrity_fpu aag {pasSubject aag} x s (s\<lparr>kheap := (kheap s)(t \<mapsto> blah)\<rparr>)"
+(*
   and partitionIntegrity_subjectAffects_aobj:
     "\<lbrakk> partitionIntegrity aag s s'; kheap s x = Some (ArchObj ao); kheap s x \<noteq> kheap s' x;
        silc_inv aag st s; pas_refined aag s; pas_wellformed_noninterference aag \<rbrakk>
        \<Longrightarrow> subject_can_affect_label_directly aag (pasObjectAbs aag x)"
+*)
```
Comment (lsf37) [inline proof/infoflow/Noninterference.thy]: remove?

File: proof/infoflow/Noninterference.thy [hunk 48]
```diff
@@ -835,149 +866,144 @@ text \<open>
...
   assumes silc_inv: "silc_inv aag st s"
   assumes kh_diff: "kheap s x \<noteq> kheap s' x"
   notes inte_obj = par_inte[THEN partitionIntegrity_integrity, THEN integrity_subjects_obj,
-                            THEN spec[where x=x], simplified integrity_obj_def, simplified]
+                            THEN spec[where x=x], simplified]
   shows "pasObjectAbs aag x \<in> subjectAffects (pasPolicy aag) (pasSubject aag)"
-
 proof -
+  note hyps = pwni pas_ref invs silc_inv kh_diff
+    hence sym_helper: "\<And>auth tcb. kheap s x = Some (TCB tcb) \<Longrightarrow>
```
Comment (lsf37) [inline proof/infoflow/Noninterference.thy]: indent -2

File: proof/infoflow/Scheduler_IF.thy [hunk 49]
```diff
@@ -82,20 +141,20 @@ locale Scheduler_IF_1 =
           arch_scheduler_affects_equiv s s'"
     "\<And>f. arch_scheduler_affects_equiv s (domain_time_update f s') =
           arch_scheduler_affects_equiv s s'"
+(*
   and arch_switch_to_thread_kheap[wp]:
     "\<And>P t. arch_switch_to_thread t \<lbrace>\<lambda>s :: det_state. P (kheap s)\<rbrace>"
   and arch_switch_to_idle_thread_kheap[wp]:
     "\<And>P. arch_switch_to_idle_thread \<lbrace>\<lambda>s :: det_state. P (kheap s)\<rbrace>"
+*)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: remove?

File: proof/infoflow/Scheduler_IF.thy [hunk 50]
```diff
@@ -967,42 +1028,63 @@ lemma globals_equiv_scheduler[wp]:
...
+  (*
     "\<lbrace>(\<lambda>s. pasDomainAbs aag (cur_domain s) \<inter> reads_scheduler aag l = {}) and
       scheduler_affects_equiv aag l st and (\<lambda>s. cur_domain st = cur_domain s) and invs\<rbrace>
      arch_switch_to_idle_thread
      \<lbrace>\<lambda>_ s. scheduler_affects_equiv aag l st s\<rbrace>"
-  and arch_switch_to_thread_unobservable:
-    "\<lbrace>(\<lambda>s. \<not> reads_scheduler_cur_domain aag l s) and
-      scheduler_affects_equiv aag l st and (\<lambda>s. cur_domain st = cur_domain s) and invs\<rbrace>
-     arch_switch_to_thread t
+  *)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: remove commented out parts?

File: proof/infoflow/Scheduler_IF.thy [hunk 51]
```diff
@@ -1012,23 +1094,57 @@ locale Scheduler_IF_2 = Scheduler_IF_1 +
       (\<lambda>s. x = idle_thread s \<longrightarrow> tc = idle_context s) and scheduler_affects_equiv aag l st\<rbrace>
      thread_set (tcb_arch_update (arch_tcb_context_set tc)) x
      \<lbrace>\<lambda>_. scheduler_affects_equiv aag l st\<rbrace>"
-  and set_object_reads_respects_scheduler[wp]:
+(*
+  and set_object_reads_respects_scheduler:
     "reads_respects_scheduler aag l \<top> (set_object ptr obj)"
+*)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: remove?

File: proof/infoflow/Scheduler_IF.thy [hunk 52]
```diff
@@ -1012,23 +1094,57 @@ locale Scheduler_IF_2 = Scheduler_IF_1 +
...
+  (wp: crunch_wps valid_silc_label_lift simp: crunch_simps)
+
 lemma switch_to_thread_midstrength_reads_respects_scheduler[wp]:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+ assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
   "midstrength_reads_respects_scheduler aag l
-     (invs and pas_refined aag and (\<lambda>s. pasObjectAbs aag t \<in> pasDomainAbs aag (cur_domain s)))
+     (invs and pas_refined aag and valid_silc_label aag and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and (\<lambda>s. pasObjectAbs aag t \<in> pasDomainAbs aag (cur_domain s)))
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 53]
```diff
@@ -1056,9 +1172,11 @@ lemma switch_to_thread_globals_equiv_scheduler[wp]:
...
 
 lemma guarded_switch_to_thread_midstrength_reads_respects_scheduler[wp]:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "midstrength_reads_respects_scheduler aag l
-           (invs and pas_refined aag and (\<lambda>s. pasObjectAbs aag t \<in> pasDomainAbs aag (cur_domain s)))
+ assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
+  shows
+   "midstrength_reads_respects_scheduler aag l
+           (invs and pas_refined aag and valid_silc_label aag and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and (\<lambda>s. pasObjectAbs aag t \<in> pasDomainAbs aag (cur_domain s)))
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 54]
```diff
@@ -1219,9 +1330,10 @@ end
 context Scheduler_IF_2 begin
 
 lemma choose_thread_reads_respects_scheduler_cur_domain:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "midstrength_reads_respects_scheduler aag l
-           (invs and pas_refined aag and valid_queues
+ assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
+    shows "midstrength_reads_respects_scheduler aag l
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: indent

File: proof/infoflow/Scheduler_IF.thy [hunk 55]
```diff
@@ -1219,9 +1330,10 @@ end
...
+           (invs and pas_refined aag and valid_silc_label aag and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and valid_queues
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 56]
```diff
@@ -1270,29 +1386,33 @@ lemma tcb_sched_action_unobservable:
...
   apply (clarsimp simp: scheduler_equiv_def domain_fields_equiv_def)
   done
 
+(* need a wellformedness condition on silc labels so silc dom can be preserved *)
 lemma choose_thread_reads_respects_scheduler_other_domain:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "reads_respects_scheduler aag l ( invs and pas_refined aag and valid_queues and
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
+  shows "reads_respects_scheduler aag l (invs and pas_refined aag and valid_silc_label aag and valid_queues and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 57]
```diff
@@ -1310,13 +1430,15 @@ lemma choose_thread_reads_respects_scheduler_other_domain:
   done
 
 lemma choose_thread_reads_respects_scheduler:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "midstrength_reads_respects_scheduler aag l (invs and pas_refined aag and valid_queues)
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
+  shows "midstrength_reads_respects_scheduler aag l (invs and pas_refined aag and valid_silc_label aag and valid_queues and
+cur_hyp_in_cur_domain and cur_fpu_in_cur_domain)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 58]
```diff
@@ -1327,9 +1449,15 @@ lemma choose_thread_reads_respects_scheduler:
...
+  for typ_at[wp]: "\<lambda>s. P (typ_at T ptr s)"
+  (wp: dxo_wp_weak simp: Let_def)
+
 lemma next_domain_snippit:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "reads_respects_scheduler aag l (invs and pas_refined aag and valid_queues)
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
+  shows "reads_respects_scheduler aag l (invs and pas_refined aag and valid_silc_label aag and valid_queues
+ and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and ct_in_cur_domain)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 59]
```diff
@@ -1340,26 +1468,28 @@ lemma next_domain_snippit:
...
+                       next_domain_snippet_cur_hyp_in_cur_domain
+                       next_domain_snippet_cur_fpu_in_cur_domain)+
   apply (clarsimp simp: scheduler_equiv_def domain_fields_equiv_def)
   done
 
 lemma schedule_choose_new_thread_read_respects_scheduler:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
-  shows "reads_respects_scheduler aag l (invs and pas_refined aag and valid_queues)
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  shows "reads_respects_scheduler aag l (invs and pas_refined aag and valid_silc_label aag and valid_queues and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain  and ct_in_cur_domain)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 60]
```diff
@@ -1525,20 +1655,23 @@ lemma dec_domain_time_reads_respects_scheduler[wp]:
...
-  shows
-    "reads_respects_scheduler aag l (\<lambda>s. pas_refined aag s \<and> invs s \<and> valid_queues s
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]  shows
+    "reads_respects_scheduler aag l (\<lambda>s. pas_refined aag s \<and> valid_silc_label aag s \<and> invs s \<and> valid_queues s
                                        \<and> guarded_pas_domain aag s \<and> domain_time s = 0
-                                       \<and> scheduler_action s = choose_new_thread
+                                       \<and> scheduler_action s = choose_new_thread \<and> cur_hyp_in_cur_domain s \<and> cur_fpu_in_cur_domain s \<and> ct_in_cur_domain s
                                        \<and> \<not> reads_scheduler_cur_domain aag l s)
                               schedule"
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: formatting (`shows`, line break)

File: proof/infoflow/Scheduler_IF.thy [hunk 61]
```diff
@@ -1602,10 +1735,11 @@ crunch schedule
      simp: crunch_simps)
 
 lemma choose_thread_unobservable:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
-    "\<lbrace>(\<lambda>s. \<not> reads_scheduler_cur_domain aag l s) and scheduler_affects_equiv aag l st and
-      invs and valid_queues and pas_refined aag and scheduler_equiv aag st\<rbrace>
+    "\<lbrace>(\<lambda>s. \<not> reads_scheduler_cur_domain aag l s) and scheduler_affects_equiv aag l st and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain and
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 62]
```diff
@@ -1627,37 +1761,52 @@ lemma tcb_sched_action_scheduler_equiv[wp]:
...
+  (wp: crunch_wps valid_silc_label_lift simp: crunch_simps)
+
 lemma reads_respects_scheduler_invisible_no_domain_switch:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
   "reads_respects_scheduler aag l
-     (\<lambda>s. pas_refined aag s \<and> invs s \<and> valid_sched s \<and> guarded_pas_domain aag s
+     (\<lambda>s. pas_refined aag s \<and> valid_silc_label aag s \<and> invs s \<and> valid_sched s \<and> guarded_pas_domain aag s \<and> cur_hyp_in_cur_domain s \<and> cur_fpu_in_cur_domain s
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 63]
```diff
@@ -1677,12 +1826,14 @@ lemma reads_respects_scheduler_invisible_no_domain_switch:
...
+
 lemma read_respects_scheduler_switch_thread_case:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
     "reads_respects_scheduler aag l
        (invs and valid_queues and (\<lambda>s. scheduler_action s = switch_thread t)
-             and valid_sched_action and pas_refined aag)
+             and valid_sched_action and pas_refined aag and valid_silc_label aag and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 64]
```diff
@@ -1692,20 +1843,21 @@ lemma read_respects_scheduler_switch_thread_case:
...
 
 lemma read_respects_scheduler_switch_thread_case_app:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
   "reads_respects_scheduler aag l
      (invs and valid_queues and (\<lambda>s. scheduler_action s = switch_thread t)
-           and valid_sched_action and pas_refined aag)
+           and valid_sched_action and pas_refined aag and valid_silc_label aag and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break

File: proof/infoflow/Scheduler_IF.thy [hunk 65]
```diff
@@ -1715,20 +1867,22 @@ lemma read_respects_scheduler_switch_thread_case_app:
...
   apply (clarsimp simp: valid_sched_action_def weak_valid_sched_action_def)
   done
 
 lemma schedule_reads_respects_scheduler_cur_domain:
-  assumes domains_distinct[wp]: "pas_domains_distinct aag"
+  assumes wellformed[wp]: "pas_wellformed_noninterference aag"
+  notes domains_distinct[wp] = pas_wellformed_noninterference_domains_distinct[OF wellformed]
   shows
-  "reads_respects_scheduler aag l (invs and pas_refined aag and valid_sched
+  "reads_respects_scheduler aag l (invs and pas_refined aag and valid_silc_label aag and valid_sched and cur_hyp_in_cur_domain and cur_fpu_in_cur_domain
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: line break (more below, I'll skip, but please fix; I kept thinking it's probably the last one, but it's not :-))

File: proof/infoflow/Scheduler_IF.thy [hunk 66]
```diff
@@ -2124,25 +2257,49 @@ lemma thread_set_scheduler_equiv[wp]:
...
+  apply (clarsimp simp: valid_tcb_context_update_def)
+  done
+
+lemma as_user_def2:
+  "as_user t m = do
+             tcb \<leftarrow> gets_the (get_tcb t);
+             (a,uc) \<leftarrow> select_f (m (arch_tcb_context_get (tcb_arch tcb)));
+             thread_set (\<lambda>tcb. tcb\<lparr>tcb_arch := arch_tcb_context_set uc (tcb_arch tcb)\<rparr>) t;
+             return a
+           od"
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: formatting

File: proof/infoflow/Scheduler_IF.thy [hunk 67]
```diff
@@ -2185,6 +2343,7 @@ lemma as_user_silc_dom_equiv[wp]:
   apply (wp dxo_wp_weak set_object_wp | wpc | simp)+
   apply (clarsimp simp: silc_dom_equiv_def equiv_for_def)
   done
+*)
```
Comment (lsf37) [inline proof/infoflow/Scheduler_IF.thy]: remove commented out block

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 20 above)
Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: Definitely should be avoided. It's hard to keep track of new arch-split tech without joining the PR reviews. This particular tech should be documented in the arch-split docs though.

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine.thy [hunk 68]
```diff
@@ -356,30 +356,64 @@ lemma handleEvent_corres_arch_extras[ADT_IF_Refine_assms]:
...
+                | wp (once) hoare_drop_imp)+
+   apply (fastforce simp: invs_def cur_tcb_def valid_state_def)
+  apply force
   done
 
 end
 
 requalify_consts
-  RISCV64.doUserOp_if
+  AARCH64.doUserOp_if
```
Comment (lsf37) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine.thy]: Same as in the abstract version. Given that this existed fro RISCV64, we should probably clean this up there as well.

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 69]
```diff
@@ -224,10 +207,144 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
   apply simp
   done
 
+
+definition handleHypervisorFault_C_body_if :: "64 word \<Rightarrow> (globals myvars, int, strictc_errortype) com"
+  where
+  "handleHypervisorFault_C_body_if hyp_fault_type ==
+      IF hyp_fault_type = 0x2000000 THEN
```
Comment (lsf37) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: what is the `0x2000000`?

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 70]
```diff
@@ -224,10 +207,144 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+      FI;; \<acute>ret__unsigned_long :== scast EXCEPTION_NONE"
+
+definition hyp_fault_type_from_H :: "hyp_fault_type \<Rightarrow> machine_word" where
+  "hyp_fault_type_from_H fault \<equiv>
+    case fault of hyp_fault_type.ARMVCPUFault f \<Rightarrow> ucast f"
+
+lemma ucast_helper:
+  "\<lbrakk> UCAST('a::len \<rightarrow> 'b::len) a = b; LENGTH('a) \<le> LENGTH('b) \<rbrakk>
+     \<Longrightarrow> a = UCAST('b::len \<rightarrow> 'a::len) b"
+  by fastforce
```
Comment (lsf37) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: This smells like it should exist already. Is it just an assumption reordering of an existing lemma? (if yes then a `lemmas .. = ...[rotated ..]` would be better.

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 71]
```diff
@@ -224,10 +207,144 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+   apply (simp add: liftE_def bind_assoc handleHypervisorFault_C_body_if_def)
+   apply (rule ccorres_pre_getCurThread)
+   apply (rule ccorres_split_nothrow_novcg)
+
+
+       apply (simp only: handleHypervisorFault_def handleHypervisorFault_C_body_if_def hyp_fault_type_from_H_def)
+       apply wpc
+       apply (simp only: hyp_fault_type.simps)
+
+       apply (rule_tac P="ARMVCPUFault x = ARMVCPUFault 0x2000000" in ccorres_cases)
```
Comment (lsf37) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: magic number

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 72]
```diff
@@ -224,10 +207,144 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+          apply vcg
+         apply (clarsimp, rule conseqPre, vcg)
+         apply clarsimp
+        apply wp
+
+apply clarsimp
+       apply (prop_tac "x \<noteq> 0x2000000")
+        apply clarsimp
+       apply clarsimp
+       apply (prop_tac "UCAST(32 \<rightarrow> 64) x \<noteq> 0x2000000")
```
Comment (lsf37) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: indent and magic numbers. We should avoid explicit 32/64 (in this case, the 32 is probably unavoidable, but the 64 should be machine_word_len).

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 73]
```diff
@@ -82,19 +82,77 @@ definition handleVMFaultEvent_C_body_if
...
+  and handleHypervisorFault_C_body_if :: "machine_word \<Rightarrow> (globals myvars, int, strictc_errortype) com"
+  and hyp_fault_type_from_H :: "hyp_fault_type \<Rightarrow> machine_word"
+  assumes do_user_op_if_C_corres:
+    "corres_underlying rf_sr False False (=) (invs' and ex_abs einvs and (\<lambda>_. uop_nonempty f))
+                       \<top> (doUserOp_if f tc) (doUserOp_C_if f tc)"
+  and handleInvocation_ccorres':
+    "ccorres (K dc \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
+       (invs' and arch_extras and ct_active' and sch_act_simple)
+       (UNIV \<inter> {s. isCall_' s = from_bool isCall} \<inter> {s. isBlocking_' s = from_bool isBlocking}) []
+       (handleInvocation isCall isBlocking) (Call handleInvocation_'proc)"
```
Comment (lsf37) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: the inner indent of this one is inconsistent with the others in the same lemma

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 74]
```diff
@@ -82,19 +82,77 @@ definition handleVMFaultEvent_C_body_if
...
+    "ccorres ((\<lambda>irq :: irq. K dc irq) \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
+             (invs' and arch_extras and ct_running' and (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread))
+             (UNIV) []
+             (liftE (do thread <- getCurThread;
+                        handleHypervisorFault thread flt
+                     od))
+             (handleHypervisorFault_C_body_if (hyp_fault_type_from_H flt))"
+  and checkInterrupt_ccorres':
+    "ccorres dc xfdc (\<lambda>s. invs' s \<and> (\<not>inKernel \<longrightarrow> sch_act_not (ksCurThread s) s)) UNIV []
+       (maybeHandleInterrupt inKernel) (Call checkInterrupt_'proc)"
```
Comment (lsf37) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: indent (of 2nd line)

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 75]
```diff
@@ -82,19 +82,77 @@ definition handleVMFaultEvent_C_body_if
...
+  and hvmf_invs_lift:
+    "\<lbrakk> \<And>s m. P (s\<lparr>ksMachineState := ksMachineState s\<lparr>machine_state_rest := m\<rparr>\<rparr>) = P s \<rbrakk>
+       \<Longrightarrow> \<lbrace>P\<rbrace> handleVMFault t hf \<lbrace>\<lambda>_ _. True\<rbrace>, \<lbrace>\<lambda>_. P\<rbrace>"
```
Comment (lsf37) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: indent of ==> (also below)

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 76]
```diff
@@ -428,14 +425,60 @@ lemma kernelEntry_corres_C:
...
+    apply (rule_tac R="\<top>" in ccorres_return[where R'=UNIV])
+    apply (rule conseqPre, vcg)
+    apply (clarsimp simp: return_def)
+   apply wpsimp
+  apply simp
+  done
+
+(* FIXME AARCH64 IF: getActiveIRQ_neq_non_kernel should be exposed *)
+lemma dmo_getActiveIRQ_notin_non_kernel_IRQs[wp]:
+  "\<lbrace>\<top>\<rbrace> doMachineOp (getActiveIRQ True) \<lbrace>\<lambda>irq _. irq \<notin> Some ` non_kernel_IRQs\<rbrace>"
```
Comment (lsf37) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: is that worth fixing before merge?

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 77]
```diff
@@ -558,6 +596,34 @@ lemma preserves'_trivial: "preserves' mode UNIV f"
   apply (simp add: preserves'_def)
   done
 
+lemma corres_select_f':
+  "\<lbrakk> \<And>s s'. P s \<Longrightarrow> P' s' \<Longrightarrow> \<forall>s' \<in> fst S'. \<exists>s \<in> fst S. rvr s s'; nf' \<Longrightarrow> \<not> snd S' \<rbrakk>
+      \<Longrightarrow> corres_underlying sr nf nf' rvr P P' (select_f S) (select_f S')"
```
Comment (lsf37) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: indent of `==>`

File: proof/infoflow/AARCH64/ArchCNode_IF.thy (hunk 4 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchCNode_IF.thy]: This looks like a holdover from the existing proofs. I'll fix for all architectures

File: proof/infoflow/AARCH64/ArchInfoFlow.thy (hunk 8 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow.thy:62]: If we agree these abbreviations are preferable, it would be nice to have broader adoption throughout the proof stack. I feel that's beyond the scope of this PR, however

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 14 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: Yep. 
This was more of a working name. Any suggestions for a more permanent one?

EDIT: have changed to `states_equiv_valid`

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 20 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: Something I've been meaning to fix but haven't gotten around to yet. I'll need to update the other architectures too

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy (hunk 22 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: These actually aren't supposed to be here anymore as I proved them in `InfoFlow_IF_1`. I'll remove them

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy (hunk 23 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:96]: See previous comment

File: proof/infoflow/Scheduler_IF.thy (hunk 65 above)
Comment (ryybrr) [reply proof/infoflow/Scheduler_IF.thy]: Must have missed this file during cleanup

File: proof/infoflow/refine/ADT_IF_Refine_C.thy (hunk 76 above)
Comment (ryybrr) [reply proof/infoflow/refine/ADT_IF_Refine_C.thy]: Don't think it's true actually, so can probably be removed

File: proof/infoflow/AARCH64/ArchDecode_IF.thy (hunk 7 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchDecode_IF.thy]: In the first proof, `whenE_throwError_wp` isn't declared `wp` (see: its associated fixme), so the poor structure in that proof means `whenE_wps` apply first. Merging the `wp (once) whenE_throwError_wp` instance with the larger `wp` block solves the issue. However, there are some proofs where this doesn't work, so I'll need to investigate further. The assumption can be removed in some of these latter proofs, which don't have the same issue.

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy (hunk 27 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: This mirrors `no_irq` in `Machine_AI`. Should that be addressed too?

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy (hunk 29 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: I've implemented a predicate with the working name `K_for`. Any suggestions for a better name?

EDIT: will ignore for now as it's too specific and not used elsewhere

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 42 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy]: An annoying consequence of auto-indent. Could we tweak this?

File: proof/infoflow/AARCH64/ArchSyscall_IF.thy (hunk 45 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchSyscall_IF.thy]: I kept these in assuming I'd redesign the proofs, but they're probably ok without one

File: proof/infoflow/InfoFlow_IF.thy (hunk 46 above)
Comment (ryybrr) [reply proof/infoflow/InfoFlow_IF.thy]: Naming suggestions?

File: proof/infoflow/AARCH64/ArchCNode_IF.thy (hunk 4 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchCNode_IF.thy]: > We probably want `arch_requalify_consts irq_at` in a generic file instead.

`irq_at` is introduced as a locale variable in `CNode_IF` and instantiated here in `ArchCNode_IF`, so I don't think this makes sense to do

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy (hunk 69 above)
Comment (ryybrr) [reply proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: It's supposed to be `UNKNOWN_FAULT`, but this magic number is exactly how it appears in the abstract and Haskell specs

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy (hunk 70 above)
Comment (ryybrr) [reply proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy]: Couldn't find any existing lemmas, it just so happens to solve via specific instantiations of some ucast simp rules

EDIT: found one, fixed

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 42 above)
Comment (lsf37) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy]: You mean in the auto-indenter? We want to, it's Raf's side project, but it turns out this whole thing is a bit of a mess and not so easy to change.

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 41 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy:187]: Might keep here for consistency as it's a common named assumption

File: proof/infoflow/AARCH64/ArchDecode_IF.thy (hunk 5 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchDecode_IF.thy:104]: Will keep for now as this pattern is very common, but will flag this for future cleanup

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 18 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:1292]: Will flag for a future refactor

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 15 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: Flagging for future cleanup. This is a common pattern, and implementing the change now would introduce a lot of noise

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 42 above)
Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy]: Calling it a side-project is a bit generous. What it boils down to is that no one understands the current auto-indenter code, since it was written in a "let's use every feature of Scala we can while not writing a single comment", and so while in principle we could tweak it, no one knows how. What I have so far is a way of building a jedit extension which can plug into the ever-expanding Isabelle scala plugin, miles away from indenting anything.

File: proof/infoflow/refine/InfoFlowC_Image_Toplevel.thy [hunk 78]
```diff
@@ -0,0 +1,17 @@
+(*
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
```
Comment (Xaphiosis) [inline proof/infoflow/refine/InfoFlowC_Image_Toplevel.thy]: new file, fix copyright

File: proof/infoflow/refine/InfoFlowC_Image_Toplevel.thy [hunk 79]
```diff
@@ -0,0 +1,17 @@
...
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+(* This theory serves as a top-level theory for testing InfoFlowC.
+   It should import everything that we want tested as part of building the
+   InfoFlowC image.
+*)
```
Comment (Xaphiosis) [inline proof/infoflow/refine/InfoFlowC_Image_Toplevel.thy]: put `*)` on prev line

File: proof/access-control/DomainSepInv.thy [hunk 80]
```diff
@@ -30,6 +30,7 @@ definition domain_sep_inv :: "bool \<Rightarrow> 'a :: state_ext state \<Rightar
                       \<and> \<not> cte_wp_at ((=) (IRQHandlerCap irq)) slot s
                       \<and> interrupt_states s irq \<noteq> IRQSignal
                       \<and> interrupt_states s irq \<noteq> IRQReserved
+                      \<and> (irq \<in> non_kernel_IRQs \<longrightarrow> interrupt_states s irq = IRQInactive)
```
Comment (Xaphiosis) [inline proof/access-control/DomainSepInv.thy:33]: The commit for this says `Assert that non-kernel IRQs are non-timer IRQs` ... do you think it's obvious enough from this change? This says that non-kernel IRQs must be inactive, which is a bit of a different statement, and feels like a bit of clarification might be worthwhile somewhere.

File: proof/access-control/AARCH64/ArchAccess.thy [hunk 81]
```diff
@@ -143,8 +143,15 @@ where
                        vgic_apr := vgic_apr (vcpu_vgic vst),
                        vgic_lr := vgic_lr (vcpu_vgic vst)\<rparr>\<rparr>))"
 
+definition vcpu_extra_lrs :: "nat \<Rightarrow> vcpu option \<Rightarrow> (nat \<Rightarrow> AARCH64.virq) option" where
```
Comment (Xaphiosis) [inline proof/access-control/AARCH64/ArchAccess.thy]: is the `AARCH64.virq` qualification needed? there's no other `virq` that I know of

Comment (Xaphiosis) [reply proof/access-control/AARCH64/ArchAccess.thy]: also, this is explained only in the commit message, this definition itself could use a comment, because the definition is not obvious. Looking at the `r ≥ n`, this means this function returns undefined for all `r < n`, which doesn't make instant sense.

The `No VCPU` comment should be removed, as the very next like says `Some vcpu`. It would probably be nicer to have `vcpu_opt` instead of `vopt`, rather than the `No VCPU` comment.

File: proof/access-control/AARCH64/ArchArch_AC.thy [hunk 82]
```diff
@@ -2164,13 +2164,57 @@ lemma vcpu_proj_arch_state_update[simp]:
...
+  "vcpu_save vr \<lbrace>\<lambda>s. P (vcpu_extra_lrs (arm_gicvcpu_numlistregs (arch_state s)) (vcpus_of s x))\<rbrace>"
+  by (wpsimp simp: vcpu_save_def
+      | rule hoare_strengthen_post,
+        rule_tac P="\<lambda>s. P (vcpu_extra_lrs (arm_gicvcpu_numlistregs (arch_state s)) (vcpus_of s x)) \<and>
+                        num_list_regs = arm_gicvcpu_numlistregs (arch_state s)"
+             and Q="\<lambda>r s. r < num_list_regs" and xs="[0..<num_list_regs]" for num_list_regs
+              in mapM_set_inv)+
+
+crunch vcpu_restore, vcpu_enable, vcpu_disable, vcpu_invalidate_active
+  for extra_lrs[wp]: "\<lambda>s. P (vcpu_extra_lrs (arm_gicvcpu_numlistregs (arch_state s)) (vcpus_of s x))"
```
Comment (Xaphiosis) [inline proof/access-control/AARCH64/ArchArch_AC.thy:2208]: minor, and probably not for infoflow if the style is already established, but it would be nicer to have `vcpus_of s p` since we're dealing with pointers

File: proof/access-control/Access_AC.thy [hunk 83]
```diff
@@ -637,15 +638,33 @@ lemma tro_alt_trans_spec: (* this takes a long time to process *)
              | time_methods \<open>fastforce intro: integrity_obj_alt.intros
                                         simp: arch_tro_alt_trans_spec\<close>\<close>)
 
+  apply (all \<open>fails \<open>erule thin_rl[of "tro_tag TCBGeneric"],
```
Comment (Xaphiosis) [inline proof/access-control/Access_AC.thy:642]: other paragraphs have a comment, since this one is new, would it make sense to add a comment as well? hard to immediately see the case it's addressing

File: proof/infoflow/Syscall_IF.thy [hunk 84]
```diff
@@ -886,8 +886,10 @@ lemma handle_interrupt_globals_equiv:
   done
 
 lemma handle_vm_fault_reads_respects_g:
-  "reads_respects_g aag l (K (is_subject aag t) and (valid_arch_state and (\<lambda>s. t \<noteq> idle_thread s)))
-                    (handle_vm_fault t vmfault_type)"
+  "reads_respects_g aag l (pas_refined aag and valid_cur_hyp and schact_is_rct and ct_in_cur_domain
+                                           and is_subject aag \<circ> cur_thread and K (is_subject aag t)
+                                           and (valid_arch_state and (\<lambda>s. t \<noteq> idle_thread s)))
```
Comment (Xaphiosis) [inline proof/infoflow/Syscall_IF.thy]: the indent of `and` should go under `pas_refined`, but I'm seeing that the rest of the file has this style already... annoying.

File: proof/infoflow/Syscall_IF.thy [hunk 85]
```diff
@@ -61,23 +61,29 @@ locale Syscall_IF_1 =
...
-    "reads_respects aag l (K (is_subject aag thread)) (handle_vm_fault thread vmfault_type)"
+    "reads_respects aag l (pas_refined aag and valid_cur_hyp and
+                               schact_is_rct and ct_in_cur_domain
+                           and is_subject aag \<circ> cur_thread and K (is_subject aag thread))
+                          (handle_vm_fault thread vmfault_type)"
   and handle_hypervisor_fault_reads_respects:
-    "reads_respects aag l \<top> (handle_hypervisor_fault thread hypfault_type)"
+    "pas_domains_distinct aag \<Longrightarrow>
+     reads_respects aag l (invs and pas_refined aag and pas_cur_domain aag
+                                 and is_subject aag \<circ> cur_thread and K (is_subject aag thread))
```
Comment (Xaphiosis) [inline proof/infoflow/Syscall_IF.thy]: indent is off (just stick it under the invs at this point), and a few lines above it's completely inconsistent (starts with left operator wrapping, continues with right operator wrapping)

File: proof/infoflow/Finalise_IF.thy [hunk 86]
```diff
@@ -528,6 +532,13 @@ crunch set_simple_ko
   for sched_act[wp]: "\<lambda>s. P (scheduler_action s)"
   (wp: crunch_wps)
 
+lemma thread_get_reads_respects:
+  "reads_respects aag l (K (aag_can_read aag thread \<or> aag_can_affect aag l thread))
+                        (thread_get f thread)"
+  unfolding thread_get_def fun_app_def
+  apply (wp gets_the_ev)
+  apply (auto intro: reads_affects_equiv_get_tcb_eq)
+  done
```
Comment (Xaphiosis) [inline proof/infoflow/Finalise_IF.thy:543]: extra newline?

File: proof/infoflow/FinalCaps.thy [hunk 87]
```diff
@@ -2885,26 +2881,79 @@ crunch timer_tick, handle_yield
...
+  "\<lbrace>domain_sep_inv False st and Q IRQTimer and Q IRQInactive\<rbrace>
+   get_irq_state irq
+   \<lbrace>Q\<rbrace>"
+  apply (simp add:get_irq_state_def)
+  apply wp
+  apply (clarsimp simp add: domain_sep_inv_def)
+  apply (drule_tac x=irq in spec)
+  apply (drule_tac x=a in spec) (*makes yellow variables*)
+  apply (drule_tac x=b in spec)
+  apply (drule_tac x=aa in spec, drule_tac x=ba in spec)
```
Comment (Xaphiosis) [inline proof/infoflow/FinalCaps.thy]: is this copied from elsewhere? this could use cleanup, and that reference to "yellow variables", sigh

File: proof/infoflow/Arch_IF.thy [hunk 88]
```diff
@@ -210,40 +225,63 @@ lemma ev2_invisible:
...
-                         W (P and Q) (P and Q) f f"
+       \<Longrightarrow> reads_equiv_valid_rv_inv (affects_equiv aag l) aag W (P and Q) f"
   by (rule ev2_invisible[OF domains_distinct]; simp)
 
-lemma modify_det:
-  "det (modify f)"
-  by (clarsimp simp: det_def modify_def get_def put_def bind_def)
+lemma reads_respects_unit_invisible:
+  "\<lbrakk> labels_are_invisible aag l L; modifies_at_most aag L P f; \<And>P. f \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace> \<rbrakk>
+       \<Longrightarrow> reads_respects aag l P (f :: (det_state,unit) nondet_monad)"
```
Comment (Xaphiosis) [inline proof/infoflow/Arch_IF.thy]: indentation

File: proof/infoflow/Arch_IF.thy [hunk 89]
```diff
@@ -210,40 +225,63 @@ lemma ev2_invisible:
...
+  apply (rule equiv_valid_guard_imp)
+   apply (simp add: equiv_valid_def2)
+   apply (rule ev2_invisible')
+  by simp+
+
+lemma reads_respects_unit_cases':
+  "\<lbrakk> reads_respects aag l (P and K (aag_can_read_or_affect aag l ptr)) f;
+     modifies_at_most aag {pasObjectAbs aag ptr} (Q and K (\<not> aag_can_read_or_affect aag l ptr)) f;
+     \<And>P. f \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace> \<rbrakk>
+     \<Longrightarrow> reads_respects aag l (if aag_can_read_or_affect aag l ptr then P else Q) (f :: (det_state,unit) nondet_monad)"
```
Comment (Xaphiosis) [inline proof/infoflow/Arch_IF.thy:270]: indentation

File: proof/infoflow/AARCH64/ArchTcb_IF.thy [hunk 90]
```diff
@@ -246,15 +259,187 @@ lemma tc_reads_respects_f[Tcb_IF_assms]:
...
+   \<lbrace>\<lambda>_. globals_equiv st\<rbrace>"
+  unfolding set_arm_current_fpu_owner_def arch_thread_set_is_thread_set
+  by (wpsimp wp: thread_set_globals_equiv thread_set_valid_arch_state hoare_vcg_all_lift hoare_drop_imps
+       | fastforce simp: ran_tcb_cap_cases)+
+
+lemma dmo_enableFpu_globals_equiv[wp]:
+  "do_machine_op enableFpu \<lbrace>globals_equiv st\<rbrace>"
+  apply (clarsimp simp: enableFpu_def dmo_distr dmo_modify_distr)
+  apply (rule bind_wp_skip)
+   apply (unfold globals_equiv_def arch_globals_equiv_def idle_equiv_def enableFpu_def)[1]
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchTcb_IF.thy]: unfold [1] is strange, wouldn't `simp only:` be better if you truly want that result? can add them as simp args to wpsimp otherwise
(same in dmo_disableFpu_globals_equiv) below

File: proof/infoflow/AARCH64/ArchTcb_IF.thy [hunk 91]
```diff
@@ -246,15 +259,187 @@ lemma tc_reads_respects_f[Tcb_IF_assms]:
...
+  unfolding lazy_fpu_restore_def
+  apply (subst gets_comp)
+  apply (case_tac "aag_can_read_or_affect aag l t")
+   apply (wpsimp simp: lazy_fpu_restore_def wp: thread_get_reads_respects gets_ev'')
+       apply (prop_tac "valid_cur_fpu xa")
+        apply assumption
+       apply (prop_tac "valid_cur_fpu xb")
+        apply assumption
+       apply clarsimp
+       apply (prop_tac "equiv_for (aag_can_read_or_affect aag l) kheap xa xb")
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchTcb_IF.thy]: xa and xb look like they could use a rename_tac somewhere

File: proof/infoflow/AARCH64/ArchTcb_IF.thy [hunk 92]
```diff
@@ -246,15 +259,187 @@ lemma tc_reads_respects_f[Tcb_IF_assms]:
...
+  and asid_table[wp]: "\<lambda>s. P (asid_table s)"
+  and numlistregs[wp]: "\<lambda>s. P (numlistregs s)"
+  and vcpu_state[wp]: "\<lambda>s. P (vcpu_state (machine_state s))"
+  and underlying_memory[wp]: "\<lambda>s. P (underlying_memory (machine_state s))"
+  and device_state[wp]: "\<lambda>s. P (device_state (machine_state s))"
+  (wp: dmo_wp crunch_wps ignore: arch_thread_set)
+
+lemma equiv_but_for_labels_guard_imp:
+  "\<lbrakk> equiv_but_for_labels aag L' st s; L' \<subseteq> L \<rbrakk>
+     \<Longrightarrow> equiv_but_for_labels aag L st s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchTcb_IF.thy:282]: indentation

File: proof/infoflow/AARCH64/ArchRetype_IF.thy [hunk 93]
```diff
@@ -459,25 +439,22 @@ lemma reset_untyped_cap_reads_respects_g:
...
-  done
+crunch init_arch_objects
+  for valid_global_objs[wp]: valid_global_objs
+  (wp: crunch_wps)
 
 lemma post_retype_invs_valid_global_objsI:
   "post_retype_invs ty rv s \<Longrightarrow> valid_global_objs s"
   by (clarsimp simp: post_retype_invs_def invs_def valid_state_def split: if_split_asm)
 
+lemma invs_cur_vcpu[simp]:
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchRetype_IF.thy]: candidate for a FIXME move, but also @lsf37 has been saying over the years that lemmas with assumptions are a poor candidate for `[simp]`, so this is maybe more of an intro candidate

File: proof/infoflow/AARCH64/ArchRetype_IF.thy [hunk 94]
```diff
@@ -8,17 +8,45 @@ theory ArchRetype_IF
...
+  "no_hyp (freeMemory ptr bits)"
+  by wp
+
+lemma clearMemory_no_fpu[Retype_IF_assms,wp]:
+  "no_fpu (clearMemory ptr bits)"
+  by wp
+
+lemma freeMemory_no_fpu[Retype_IF_assms,wp]:
+  "no_fpu (freeMemory ptr bits)"
+  by wp
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchRetype_IF.thy:42]: hang on, if wp can solve these outright, aren't they already wp rules? or is there a lifting rule that's in wp?

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 95]
```diff
@@ -64,10 +125,11 @@ declare arch_globals_equiv_def[simp]
 
 end
 
-requalify_consts
-  AARCH64.equiv_asid
-  AARCH64.equiv_asid'
-  AARCH64.arch_globals_equiv
-  AARCH64.non_asid_pool_kheap_update
+(* FIXME AARCH64 IF: requalify elsewhere *)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy:127]: since they are not immediately used in this file, I agree

File: proof/infoflow/AARCH64/ArchInfoFlow.thy [hunk 96]
```diff
@@ -48,14 +51,72 @@ definition non_asid_pool_kheap_update where
...
+definition is_arch_cur_fpu_2 :: "obj_ref \<Rightarrow> obj_ref option \<Rightarrow> bool" where
+  "is_arch_cur_fpu_2 ptr fopt \<equiv> fopt = Some ptr"
+
+locale_abbrev is_arch_cur_fpu :: "obj_ref \<Rightarrow> 's state \<Rightarrow> bool" where
+  "is_arch_cur_fpu ptr s \<equiv> is_arch_cur_fpu_2 ptr (arm_current_fpu_owner (arch_state s))"
+
+lemmas is_arch_cur_fpu_def = is_arch_cur_fpu_2_def
+
+definition hw_fpu :: "bool \<Rightarrow> fpu_state \<Rightarrow> fpu_state option"
+where
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow.thy]: where to end of prev line

File: proof/infoflow/AARCH64/ArchInfoFlow.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchInfoFlow.thy:62]: I'm not sure how much these abbreviations help really; can you elaborate? These don't exist on any arches other than Arms, and the abbreviation hides the arch_state dependency. I can probably be persuaded on the current_vcpu, but the numlistregs seems too specialised.

File: proof/infoflow/AARCH64/ArchIRQMasks_IF.thy [hunk 97]
```diff
@@ -169,10 +288,10 @@ proof goal_cases
...
 
 
-requalify_facts
-  AARCH64.init_arch_objects_irq_masks
-  AARCH64.arch_activate_idle_thread_irq_masks
-  AARCH64.retype_region_irq_masks
+arch_requalify_facts
+  init_arch_objects_irq_masks
+  arch_activate_idle_thread_irq_masks
+  retype_region_irq_masks
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchIRQMasks_IF.thy:295]: this needs commentary or change; why are these not part of the interface?

File: proof/infoflow/AARCH64/ArchFinalCaps.thy [hunk 98]
```diff
@@ -326,4 +397,59 @@ proof goal_cases
...
+lemma handle_reserved_irq_non_kernel_IRQs[FinalCaps_assms]:
+  "\<lbrace>P and K (irq \<notin> non_kernel_IRQs)\<rbrace> handle_reserved_irq irq \<lbrace>\<lambda>_. P\<rbrace>"
+  unfolding handle_reserved_irq_def
+  apply (rule hoare_gen_asm)
+  apply (wpsimp wp: when_wp[where P'="\<bottom>"] simp: non_kernel_IRQs_def irq_vppi_event_index_def)
+  done
+
+end
+
+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalCaps.thy:448]: no need for this newline; and would be nice to have an end tag on the `end` (i.e. `(* Arch *)`)

File: proof/infoflow/AARCH64/ArchFinalCaps.thy [hunk 99]
```diff
@@ -249,14 +294,35 @@ lemma arch_invoke_irq_control_silc_inv[FinalCaps_assms]:
...
   (simp: tcb_cap_cases_def)
 
 crunch arch_prepare_set_domain, arch_prepare_next_domain, arch_post_set_flags
-  for inv[FinalCaps_assms,wp]: P
+  for silc_inv[FinalCaps_assms, wp]: "silc_inv aag st"
+  (wp: crunch_wps)
+
+lemma tcb_cap_cases_tcb_fault:
+  "\<forall>(getF, a, b)\<in>ran tcb_cap_cases.
+         getF (tcb_fault_update F tcb) = getF tcb"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalCaps.thy]: rather than this strange indentation, it can probably fit on one line

Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchFinalCaps.thy]: also spaces around `∈`

File: proof/infoflow/AARCH64/ArchFinalCaps.thy [hunk 100]
```diff
@@ -249,14 +294,35 @@ lemma arch_invoke_irq_control_silc_inv[FinalCaps_assms]:
...
+         (case opt of None \<Rightarrow> returnOk rv | Some x \<Rightarrow> f x)
+         \<lbrace>\<lambda>_. Q\<rbrace>"
+  by (cases opt; wpsimp)
+
+lemma case_option_wp_return:
+  assumes [wp]: "\<And>x. \<lbrace>P x\<rbrace> f x \<lbrace>\<lambda>_. Q\<rbrace>"
+  shows "\<lbrace>Q and (\<lambda>s. opt \<noteq> None \<longrightarrow> P (the opt) s)\<rbrace>
+         (case opt of None \<Rightarrow> return rv | Some x \<Rightarrow> f x)
+         \<lbrace>\<lambda>_. Q\<rbrace>"
+  by (cases opt; wpsimp)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalCaps.thy:326]: this one and its returnOk cousin are FIXME move candidates to somewhere in lib

File: proof/infoflow/AARCH64/ArchADT_IF.thy [hunk 101]
```diff
@@ -297,35 +415,50 @@ crunch arch_invoke_irq_control
...
 end
 
 
-global_interpretation ADT_IF_1?: ADT_IF_1
+global_interpretation ADT_IF_2?: ADT_IF_2
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact ADT_IF_assms | wp init_arch_objects_inv)?)
+    by (unfold_locales; (fact ADT_IF_assms)?)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchADT_IF.thy:459]: this is better, thank you

File: proof/infoflow/AARCH64/ArchADT_IF.thy [hunk 102]
```diff
@@ -15,10 +15,105 @@ theory ArchADT_IF
...
+  activate_thread_valid_cur_vcpu
+
+end
+
+
+global_interpretation ADT_IF_1?: ADT_IF_1
+proof goal_cases
+  interpret Arch .
+  case 1 show ?case
+    by (unfold_locales; (fact ADT_IF_assms[folded valid_cur_hyp_def cur_hyp_in_cur_domain_def])?)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchADT_IF.thy:111]: this is odd. we want to not have reasoning when satisfying interfaces (i.e. have the interface satisfied verbatim by the rules we have proved), so why is this done this way?
I'd suggest moving the folding to the `lemmas [ADT_IF_assms] =` above, if those affected lemmas are in there, or tweaking things otherwise.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 103]
```diff
@@ -8,7 +8,15 @@ theory ArchArch_IF
 imports Arch_IF
 begin
 
-context Arch begin global_naming AARCH64
+(* FIXME AARCH64 IF: consider modelling some of these *)
+axiomatization dmo_reads_respects where
+  dmo_getESR_reads_respects: "reads_respects aag l \<top> (do_machine_op AARCH64.getESR)" and
+  dmo_getFAR_reads_respects: "reads_respects aag l \<top> (do_machine_op AARCH64.getFAR)" and
+  dmo_doSMC_mop_reads_respects: "reads_respects aag l \<top> (do_machine_op (AARCH64.doSMC_mop args))" and
+  dmo_addressTranslateS1_reads_respects: "reads_respects aag l \<top> (do_machine_op (AARCH64.addressTranslateS1 w))"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:16]: this is a bit dangerous; if a generic theory includes this one, then these AARCH64 facts will be available in the general context; given limited scope of IF it's probably not too bad, but at the very least I'd treat it a bit like Kernel_Config and want to partially hide them if we can?

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 104]
```diff
@@ -150,26 +157,33 @@ lemma set_cap_globals_equiv''[Arch_IF_assms]:
...
 
 
-requalify_facts
-  AARCH64.set_simple_ko_globals_equiv
-  AARCH64.retype_region_irq_state_of_state
-  AARCH64.arch_perform_invocation_irq_state_of_state
+arch_requalify_facts
+  set_simple_ko_globals_equiv
+  retype_region_irq_state_of_state
+  arch_perform_invocation_irq_state_of_state
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:207]: should have a comment why these are not interfaced?

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 105]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  by (drule (1) states_equiv_for_trans,
+      drule states_equiv_for_sym,
+      drule (1) states_equiv_for_trans,
+      drule states_equiv_for_sym,
+      solves simp)
+
+lemma states_equiv_valid_invisible:
+  "\<lbrakk> modifies_at_most aag {l. \<not>L l} Q f; \<And>P. f \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace>;
+     \<forall>s t. P s \<and> P t \<longrightarrow> (\<forall>(rva,s') \<in> fst (f s). \<forall>(rvb,t') \<in> fst (f t). rva = rvb) \<rbrakk>
+     \<Longrightarrow> states_equiv_valid aag L (P and Q) f"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1341]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 106]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  unfolding equiv_valid_def2 by (fastforce intro!: states_equiv_valid_2_invisible)
+
+lemma states_equiv_valid_unit_cases':
+  "\<lbrakk> states_equiv_valid aag L (P and K (L (pasObjectAbs aag ptr))) f;
+     modifies_at_most aag {pasObjectAbs aag ptr} Q f; \<And>P. f \<lbrace>\<lambda>s. P (ready_queues s)\<rbrace> \<rbrakk>
+     \<Longrightarrow> states_equiv_valid aag L (if L (pasObjectAbs aag ptr) then P else Q) (f :: (det_state,unit) nondet_monad)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1347]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 107]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+     apply wpsimp+
+  done
+
+lemma cur_vcpu_for_eq_Some[simp]:
+  "(cur_vcpu_for_2 P cv = Some b) = (\<exists>ptr. cv = Some (ptr,b) \<and> P ptr)"
+  by (clarsimp simp: cur_vcpu_for_def split: option.splits)
+
+lemma cur_vcpu_for_equiv_l:
+  "\<lbrakk> equiv_for P cur_vcpu_of st s \<rbrakk>
+     \<Longrightarrow> cur_vcpu_for P st = cur_vcpu_for P s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1779]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 108]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  apply (case_tac "current_vcpu st"; case_tac "current_vcpu s")
+  by (auto simp: cur_vcpu_for_None cur_vcpu_for_Some equiv_for_def cur_vcpu_of_def split: if_splits)
+
+lemma numlistregs_for_equiv_l:
+  "\<lbrakk> equiv_for P (K \<circ> numlistregs) st s \<rbrakk>
+     \<Longrightarrow> numlistregs_for P st = numlistregs_for P s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1785]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 109]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+            apply assumption
+           apply wpsimp+
+     apply (fastforce simp: reads_equiv_def2 affects_equiv_def2 states_equiv_for_def equiv_hyp_def equiv_for_def)
+    apply (wpsimp wp: mapM_wp_inv simp: vcpu_save_lr_def get_gic_vcpu_ctrl_lr_def dmo_distr)+
+  done
+
+lemma equiv_valid_cases'':
+  "\<lbrakk> \<And>s t. \<lbrakk> A s t; I s t; R s; R t \<rbrakk> \<Longrightarrow> P s = P t;
+     equiv_valid I A B (R and P) f; equiv_valid I A B ((\<lambda>s. \<not>P s) and R) f \<rbrakk>
+     \<Longrightarrow> equiv_valid I A B R f"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:2080]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 110]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  by (simp add: vcpu_save_lrs_def bind_assoc)
+
+lemma bind_assoc_helper:
+  "(do x <- f;
+       y <- g x;
+       (z y :: ('s,unit) nondet_monad)
+    od) =
+   (do y <- (f >>= g);
+       z y od)"
+  by (simp add: bind_assoc)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: FIXME move candidate? surprised we don't have this already

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 111]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  "states_equiv_valid aag L (\<lambda>s. current_vcpu s = Some (vr,True)) (vcpu_disable (Some vr))"
+  apply (simp only: vcpu_disable_def fun_app_def bind_assoc_helper vcpu_save_vgic_defs[symmetric] vcpu_save_lrs_helper)
+  apply (clarsimp simp: dmo_distr)
+  apply (wpsimp wp: when_ev mapM_ev mapM_wp_inv)+
+  apply auto
+  done
+
+definition states_equiv_for_non_hyp ::
+  "(obj_ref \<Rightarrow> bool) \<Rightarrow> (irq \<Rightarrow> bool) \<Rightarrow> (asid \<Rightarrow> bool) \<Rightarrow>
+   (domain \<Rightarrow> bool) \<Rightarrow> det_state \<Rightarrow> det_state \<Rightarrow> bool" where
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: in this case the `where` goes on next line, indented, as per style guide

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 112]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (underlying_memory (machine_state s))\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P  (device_state (machine_state s))\<rbrace>"
+  shows "f \<lbrace>\<lambda>s. equiv_machine_state P ms (machine_state s)\<rbrace>"
+  by (wpsimp wp: assms equiv_for_lift2)
+
+lemma vcpu_restore_states_equiv_for_non_hyp[wp]:
+  "vcpu_restore vopt \<lbrace>states_equiv_for_non_hyp P Q R S st\<rbrace>"
+  apply (rule states_equiv_for_non_hyp_lift)
+           defer
+           defer
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: double-defer is unusual, and makes it hard to follow the proof script. would it make sense to do `prefer` instead here?

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 113]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+
+lemma vmask_truncate_helper:
+  "vmask (numlistregs s) (vcpu_state.truncate vcpu) =
+   vcpu_state.truncate (vmask (numlistregs s) vcpu)"
+  by (clarsimp simp: vmask_def vcpu_state.defs)
+
+lemma vcpu_restore_vcpu_proj':
+  "\<lbrace>\<lambda>s. vopt = vcpu_proj UNIV UNIV True True True vr s \<and> valid_arch_state s\<rbrace>
+    vcpu_restore vr
+    \<lbrace>\<lambda>_ s. vopt = vcpu_proj {} {} False False False vr s\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 114]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+
+lemma equiv_valid_split:
+  assumes "equiv_valid I A B P f"
+  assumes "equiv_valid I' A' B' P' f"
+  shows "equiv_valid (\<lambda>s s'. I s s' \<and> I' s s') (\<lambda>s s'. A s s' \<and> A' s s')
+                     (\<lambda>s s'. B s s' \<and> B' s s') (\<lambda>s. P s \<and> P' s) f"
+  using assms by (fastforce simp: equiv_valid_def2 equiv_valid_2_def)
+
+definition vmask where
+  "vmask \<equiv> vcpu_mask"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: is this helpful? the name is more obscure than what it's wrapping

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 115]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+    apply clarsimp
+   apply clarsimp
+   apply (drule vcpus_of_vcpu_proj)
+   apply simp
+  apply clarsimp
+  apply (clarsimp simp: vmask_truncate_helper)
+  apply (clarsimp simp: vcpu_proj_def vcpu_state.defs vmask_def cong: if_cong)
+  done
+
+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: extra newline

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 116]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  unfolding get_vcpu_def gets_map_def
+  by (wpsimp simp: obj_at_def opt_map_def split: option.splits)
+
+crunch vcpu_restore_2
+  for kheap[wp]: "\<lambda>s. P (kheap s)"
+  and numlistregs[wp]: "\<lambda>s. P (numlistregs s)"
+
+(* This the main use of states_equiv_for : P is use to restrict the labels we want to consider *)
+abbreviation states_equiv_for_labels_non_hyp ::
+  "'a PAS \<Rightarrow> ('a \<Rightarrow> bool) \<Rightarrow> det_state \<Rightarrow> det_state \<Rightarrow> bool" where
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: where to next line as per style guide

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 117]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+     apply (wpsimp)+
+    apply (rule vcpu_restore_2_reads_respects_hyp_l[of "L o pasObjectAbs aag"])
+   apply (auto simp: states_equiv_for_def comp_def
+                     states_equiv_for_non_hyp_def equiv_hyp_def)
+  done
+
+lemma vcpu_enable_2_vcpu_proj:
+  "\<lbrace>\<lambda>s. vopt = vcpu_proj savedWhenDisabledRegs {} True False False vr s \<and> valid_arch_state s\<rbrace>
+    vcpu_enable_2 vr
+    \<lbrace>\<lambda>_ s. vopt = vcpu_proj {} {} False False False vr s\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 118]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+          apply (rule_tac P=\<top> and P'=\<top>
+                       in states_equiv_valid_2_invisible[OF modifies_at_mostI modifies_at_mostI])
+              apply (assumption | wpsimp simp: split_def split_del: if_split)+
+   apply (auto simp: cur_vcpu_for_def split: option.splits if_splits)
+  done
+
+lemma vcpu_switch_reads_respects:
+  "reads_respects aag l valid_arch_state (vcpu_switch vopt)"
+  apply (rule reads_respects_from_labels)
+       apply (rule vcpu_switch_states_equiv_valid)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: consider `[OF ...]`

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 119]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  "reads_respects aag l (\<lambda>s. \<forall>vr b. current_vcpu s = Some (vr,b) \<longrightarrow> b)
+                        (do_machine_op enableFpuEL01)"
+  (is "reads_respects _ _ ?P _")
+  apply (rule_tac P="\<lambda>s. cur_vcpu_for (aag_can_read_or_affect aag l) s = None" in equiv_valid_cases'')
+    apply (prop_tac "equiv_hyp (aag_can_read_or_affect aag l) s t")
+     apply (auto simp: reads_equiv_def2 affects_equiv_def2 states_equiv_for_def equiv_hyp_def equiv_for_def)[1]
+    apply (auto simp: cur_vcpu_for_None' equiv_hyp_def equiv_for_def)[1]
+   apply (wpsimp wp: enableFpuEL01_reads_respects'')
+  apply (wpsimp wp: enableFpuEL01_reads_respects')
+  done
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:3094]: I find it a bit intimidating how something like `enableFpuEL01` has a proof so complicated that it needs to be done in two lemmas (well, and the other machine ops).

Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:3094]: My instinct is to say something can be lifted here, but maybe for another time.

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 120]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  "reads_respects aag l (pas_refined aag and valid_arch_state and valid_vcpu_invocation iv and K (authorised_vcpu_inv aag iv))
+                        (perform_vcpu_invocation iv)"
+  unfolding perform_vcpu_invocation_def authorised_vcpu_inv_def
+  apply (rule gen_asm_ev)
+  apply (cases iv; simp)
+      apply (wpsimp wp: associate_vcpu_tcb_reads_respects)
+     apply (wpsimp wp: invoke_vcpu_inject_irq_reads_respects)
+    apply (wpsimp wp: invoke_vcpu_read_register_reads_respects)
+   apply (wpsimp wp: invoke_vcpu_write_register_reads_respects)
+  apply (wpsimp wp: invoke_vcpu_ack_vppi_reads_respects)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: this should be foldable to `(cases iv; wpsimp wp: ...)`

Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: and if the wpc part picks up the iv, then it can be folded even further

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 121]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+lemma perform_vcpu_invocation_globals_equiv:
+  "\<lbrace>globals_equiv s and invs and valid_vcpu_invocation iv\<rbrace>
+   perform_vcpu_invocation iv
+   \<lbrace>\<lambda>_. globals_equiv s\<rbrace>"
+  unfolding perform_vcpu_invocation_def valid_vcpu_invocation_def
+  by (cases iv; wpsimp)
+
+lemma perform_sgi_invocation_reads_respects:
+  "reads_respects aag l \<top>
+                  (perform_sgi_invocation api)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy]: should fit on one line

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 122]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  apply (auto simp: authorised_for_globals_arch_inv_def invs_def valid_state_def valid_arch_inv_def)
+  done
+
+crunch arch_post_cap_deletion
+  for valid_global_objs[wp]: "valid_global_objs"
+
+(* generalises auth_ipc_buffers_mem_Write *)
+lemma auth_ipc_buffers_mem_Write':
+  "\<lbrakk> x \<in> auth_ipc_buffers s thread; pas_refined aag s; valid_objs s \<rbrakk>
+     \<Longrightarrow> (pasObjectAbs aag thread, Write, pasObjectAbs aag x) \<in> pasPolicy aag"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:3484]: indentation

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 123]
```diff
@@ -1135,143 +1177,2356 @@ lemma store_asid_pool_entry_globals_equiv:
...
+  arch_post_cap_deletion_valid_global_objs
+  auth_ipc_buffers_mem_Write'
+  thread_set_globals_equiv
+  arch_post_modify_registers_cur_domain
+  arch_post_modify_registers_cur_thread
+  length_msg_lt_msg_max
+  set_mrs_globals_equiv
+  arch_perform_invocation_globals_equiv
+  check_valid_ipc_buffer_inv
+  arch_perform_invocation_reads_respects_g
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:3511]: same as in other files: any comments on why this isn't interfaced?

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 124]
```diff
@@ -202,123 +209,204 @@ lemma decode_frame_invocation_reads_respects_f:
...
+  apply (wpsimp wp: reads_respects_f_inv'[OF reads_respects_gets_lookup_frame]
+                    reads_respects_f_inv'[OF lookup_error_on_failure_rev]
+                    find_vspace_for_asid_reads_respects whenE_throwError_wp hoare_vcg_all_lift
+              simp: Let_def)+
+  apply (fastforce intro: user_vtop_leq_canonical_user simp: user_region_def user_vtop_def)
+  done
+
+lemma aag_cap_auth_VCPUCap:
+  "\<lbrakk> pas_cap_cur_auth aag (ArchObjectCap (VCPUCap vcpu_ptr)); pas_refined aag s \<rbrakk>
+     \<Longrightarrow> is_subject aag vcpu_ptr"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:336]: indentation

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 125]
```diff
@@ -202,123 +209,204 @@ lemma decode_frame_invocation_reads_respects_f:
...
+  unfolding aag_cap_auth_def
+  by (simp add: clas_no_asid cap_auth_conferred_def arch_cap_auth_conferred_def
+                cli_no_irqs pas_refined_all_auth_is_owns)
+
+lemma decode_vcpu_inject_irq_reads_respects_f:
+  "\<lbrakk> cap = VCPUCap vcpu_ptr; invocation_type label = ArchInvocationLabel ARMVCPUInjectIRQ\<rbrakk>
+     \<Longrightarrow> reads_respects_f aag l
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:343]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 126]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+     \<Longrightarrow> current_fpu s = current_fpu t"
+  apply (clarsimp simp: valid_cur_fpu_cur_fpu_for valid_cur_fpu_def
+                        equiv_for_def is_tcb_cur_fpu_def obj_at_def)
+  apply (drule_tac x=p in spec)+
+  apply auto
+  done
+
+lemma maybeM_when:
+  "maybeM f opt = when (opt \<noteq> None) (f (the opt))"
+  by (clarsimp simp: maybeM_def when_def)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:296]: FIXME move candidate

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 127]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  "valid_cur_fpu s \<Longrightarrow> cur_fpu_for P s = (\<exists>p. P p \<and> is_tcb_cur_fpu p s)"
+  apply (clarsimp simp: cur_fpu_for_def valid_cur_fpu_def)
+  apply (rule iffI; erule ex_forward)
+   apply (clarsimp simp: valid_cur_fpu_def is_tcb_cur_fpu_def obj_at_def get_tcb_def is_arch_cur_fpu_def
+                  split: option.splits kernel_object.splits)+
+  done
+
+lemma equiv_kheap_equiv_current_fpu:
+  "\<lbrakk> equiv_for P kheap s t; valid_cur_fpu s; valid_cur_fpu t; cur_fpu_for P s; cur_fpu_for P t\<rbrakk>
+     \<Longrightarrow> current_fpu s = current_fpu t"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:286]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 128]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  apply auto
+  done
+
+lemma maybeM_when:
+  "maybeM f opt = when (opt \<noteq> None) (f (the opt))"
+  by (clarsimp simp: maybeM_def when_def)
+
+lemma maybeM_ev:
+  "\<lbrakk> \<And>v. opt = Some v \<Longrightarrow> equiv_valid_inv I A (P v) (f v) \<rbrakk>
+     \<Longrightarrow> equiv_valid_inv I A (\<lambda>s. \<forall>v. opt = Some v \<longrightarrow> P v s) (maybeM f opt)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:300]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 129]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  apply (clarsimp simp: get_tcb_def obj_at_def split: option.splits kernel_object.splits)
+  done
+
+lemma as_user_equiv_but_for_labels[wp]:
+  "\<lbrace>equiv_but_for_labels aag L st and K (pasObjectAbs aag ptr \<in> L)\<rbrace>
+   as_user ptr f
+   \<lbrace>\<lambda>_. equiv_but_for_labels aag L st\<rbrace>"
+  apply (rule as_user_wp_thread_set_helper)
+  apply wpsimp
+  done
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: by

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 130]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  "do_machine_op disableFpu \<lbrace>\<lambda>s. P (machine_fpu s)\<rbrace>"
+  by (wpsimp wp: dmo_wp)
+
+lemma dmo_enableFpu_machine_fpu[wp]:
+  "do_machine_op enableFpu \<lbrace>\<lambda>s. P (machine_fpu s)\<rbrace>"
+  by (wpsimp wp: dmo_wp)
+
+lemma tcb_at_typ_at':
+  "(\<And>P T p. \<lbrace>\<lambda>s. P (typ_at T p s)\<rbrace> f \<lbrace>\<lambda>rv s. P (typ_at T p s)\<rbrace>)
+    \<Longrightarrow> \<lbrace>\<lambda>s. P (tcb_at c s)\<rbrace> f \<lbrace>\<lambda>rv s. P (tcb_at c s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 131]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  "fpu_of (Some False) fopt fpu = fopt"
+  by (clarsimp simp: fpu_of_def)
+
+lemma fpu_of_None[simp]:
+  "fpu_of None fopt fpu = None"
+  by (clarsimp simp: fpu_of_def)
+
+lemma valid_cur_fpu_current_fpu_Some:
+  "\<lbrakk> valid_cur_fpu s; current_fpu s = Some t \<rbrakk>
+     \<Longrightarrow> tcb_cur_fpu_of s t = Some True"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:422]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 132]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  apply (clarsimp simp: valid_cur_fpu_def)
+  apply (erule_tac x=t in allE)
+  apply (clarsimp simp: get_tcb_def is_tcb_cur_fpu_def obj_at_def)
+  done
+
+lemma save_fpu_state_equiv_but_for_labels[wp]:
+  "\<lbrace>\<lambda>s. equiv_but_for_labels aag L st s \<and> pasObjectAbs aag ptr \<in> L\<rbrace>
+   save_fpu_state ptr
+  \<lbrace>\<lambda>_. equiv_but_for_labels aag L st\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 133]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+     apply (clarsimp simp: equiv_kheap_equiv_current_fpu)
+    apply wpsimp
+   apply clarsimp
+  apply (rule wp_pre)
+   apply (simp add: equiv_valid_def2)
+   apply (rule_tac R'="\<top>\<top>"
+               and Q="\<lambda>rv. (\<lambda>s. current_fpu s = rv \<and> valid_cur_fpu s)
+                       and K (\<forall>vr. rv = Some vr \<longrightarrow> \<not> L (pasObjectAbs aag vr))"
+               and Q'="\<lambda>rv. (\<lambda>s. current_fpu s = rv \<and> valid_cur_fpu s)
+                        and K (\<forall>vr. rv = Some vr \<longrightarrow> \<not> L (pasObjectAbs aag vr))"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: the `and` should not be to the left of the `rv.`

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 134]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+           apply (rule modifies_at_mostI)
+           apply (wpsimp wp: hoare_vcg_imp_lift hoare_vcg_all_lift)
+          apply (rule modifies_at_mostI)
+          apply (wpsimp wp: hoare_vcg_imp_lift hoare_vcg_all_lift)
+         apply wpsimp
+        apply wpsimp
+       apply clarsimp
+      apply simp
+     apply simp
+    apply wpsimp+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: this whole chunk from after the modifies_at_most should compress to (wpsimp wp: ...)+

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 135]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+     apply (rule equiv_valid_conseq)
+       apply (rule_tac P="L o pasObjectAbs aag" in fpu_restore_equiv_kheap)
+      apply clarsimp
+      apply (subst conj_assoc[symmetric])
+      apply (rule conjI)
+       apply assumption
+      apply clarsimp
+      apply (rule conjI)
+       apply assumption
+      apply assumption
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy]: this looks overly spelled out... conjI + assumption + clarsimp + conjI + assumption + assumption? apart from the conj_assoc being directly managed, fastforce should be able to take most of this out

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 136]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+  "states_equiv_for_non_fpu P Q R S s s"
+  by (auto simp: states_equiv_for_non_fpu_def intro: equiv_for_refl equiv_asids_refl equiv_hyp_refl)
+
+lemma states_equiv_for_non_fpu_sym:
+  "states_equiv_for_non_fpu P Q R S s t \<Longrightarrow> states_equiv_for_non_fpu P Q R S t s"
+  by (auto simp: states_equiv_for_non_fpu_def intro: equiv_for_sym equiv_asids_sym equiv_fpu_sym equiv_hyp_sym)
+
+lemma states_equiv_for_non_fpu_trans:
+  "\<lbrakk> states_equiv_for_non_fpu P Q R S s t; states_equiv_for_non_fpu P Q R S t u \<rbrakk>
+     \<Longrightarrow> states_equiv_for_non_fpu P Q R S s u"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:642]: indentation

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 137]
```diff
@@ -243,11 +234,766 @@ lemmas aag_cap_auth_subject = aag_cap_auth_ASIDPoolCap_asid
...
+    "\<And>P. \<lbrace>\<lambda>s. P (irq_state (machine_state s))\<rbrace> f \<lbrace>\<lambda>rv s. P (irq_state (machine_state s))\<rbrace>"
+  shows
+    "states_equiv_valid_non_fpu aag l \<top> (f :: (det_state,unit) nondet_monad)"
+  apply (clarsimp simp: equiv_valid_def2 equiv_valid_2_def)
+  apply (rule states_equiv_for_non_fpu_symmetric)
+  apply (erule use_valid)
+   apply (wp assms)
+  apply (rule states_equiv_for_non_fpu_symmetric)
+  apply (erule use_valid)
+   apply (wp assms)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:674]: the assumptions don't need names in this case, especially when the names are as meaningful as h,j,k,l

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy [hunk 138]
```diff
@@ -277,15 +1035,16 @@ lemma requiv_arm_asid_table_asid_high_bits_of_asid_eq':
...
    apply (auto intro: requiv_arm_asid_table_asid_high_bits_of_asid_eq
                       aag_cap_auth_ASIDPoolCap_asid)[1]
   apply (simp add: asid_high_bits_of_def asid_low_bits_def)
   done
 
 lemma pt_cap_aligned:
-  "\<lbrakk> caps_of_state s p = Some (ArchObjectCap (PageTableCap word x)); valid_caps (caps_of_state s) s \<rbrakk>
-     \<Longrightarrow> is_aligned word pt_bits"
+  "\<lbrakk> caps_of_state s p = Some (ArchObjectCap (PageTableCap word pt_t x)); valid_caps (caps_of_state s) s \<rbrakk>
+     \<Longrightarrow> is_aligned word (pt_bits pt_t)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalise_IF.thy:1018]: indentation

File: proof/infoflow/ADT_IF.thy [hunk 139]
```diff
@@ -884,6 +884,82 @@ definition irq_state_next where
...
+     "do_machine_op (getActiveIRQ in_kernel) \<lbrace>\<lambda>s :: det_state. valid_irq_states s\<rbrace>"
+   and deleted_irq_handler_valid_irq_states[wp]:
+     "deleted_irq_handler irq \<lbrace>\<lambda>s :: det_state. valid_irq_states s\<rbrace>"
+   and arch_finalise_cap_valid_irq_states[wp]:
+     "arch_finalise_cap c x \<lbrace>\<lambda>s :: det_state. valid_irq_states s\<rbrace>"
+   and arch_post_cap_deletion_valid_irq_states[wp]:
+     "arch_post_cap_deletion c \<lbrace>\<lambda>s :: det_state. valid_irq_states s\<rbrace>"
+   and prepare_thread_delete_valid_irq_states[wp]:
+     "prepare_thread_delete ptr \<lbrace>\<lambda>s :: det_state. valid_irq_states s\<rbrace>"
+  and cur_hyp_in_cur_domain_machine_state_update[simp]:
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy:908]: `and`s shifted indentation at this point; while we're here it would be good to re-indent them, and also to indent `dmo_getActiveIRQ_wp` and `dmo_getActiveIRQ_wp` terms so it looks consistent.

File: proof/infoflow/ADT_IF.thy [hunk 140]
```diff
@@ -1048,6 +1120,52 @@ lemma kernel_entry_if_valid_domain_list[wp]:
...
+ "thread_set (\<lambda>tcb. tcb\<lparr>tcb_arch := arch_tcb_context_set tc (tcb_arch tcb)\<rparr>) t
+         \<lbrace>ct_in_cur_domain\<rbrace>"
+  apply (simp add: thread_set_def set_object_def get_object_def)
+  apply wpsimp
+  done
+
+lemma thread_set_ct_active'[wp]:
+  "thread_set
+          (\<lambda>tcb. tcb\<lparr>tcb_arch := arch_tcb_context_set tc (tcb_arch tcb)\<rparr>)
+          t
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy]: this probably can fit on the same line, and if not, less indent

File: proof/infoflow/ADT_IF.thy [hunk 141]
```diff
@@ -1048,6 +1120,52 @@ lemma kernel_entry_if_valid_domain_list[wp]:
   unfolding kernel_entry_if_def
   by (wpsimp wp: thread_set_invs_trivial simp: ran_tcb_cap_cases arch_tcb_update_aux2)
 
+lemma thread_set_tcb_context_ct_in_cur_domain[wp]:
+ "thread_set (\<lambda>tcb. tcb\<lparr>tcb_arch := arch_tcb_context_set tc (tcb_arch tcb)\<rparr>) t
+         \<lbrace>ct_in_cur_domain\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy]: less indent on postcondition

File: proof/infoflow/ADT_IF.thy [hunk 142]
```diff
@@ -2888,18 +3059,20 @@ end
 
 
 lemma schedule_if_irq_measure_if:
-  "(r, b) \<in> fst (schedule_if uc i_s) \<Longrightarrow> irq_measure_if b \<le> irq_measure_if i_s"
+  "\<lbrakk> (r, b) \<in> fst (schedule_if uc i_s); domain_sep_inv False st i_s; valid_irq_states i_s \<rbrakk>
+     \<Longrightarrow> irq_measure_if b \<le> irq_measure_if i_s"
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy:3056]: indentation

File: proof/infoflow/ADT_IF.thy [hunk 143]
```diff
@@ -2888,18 +3059,20 @@ end
...
   apply (fold irq_measure_if_inv_def)
   apply (erule use_valid[OF _ irq_measure_if_inv'] | wp schedule_if_irq_state_inv | simp)+
-  apply (simp add: irq_measure_if_inv_def)
+  apply (simp add: irq_measure_if_inv_def domain_sep_inv_refl)
   done
 
 lemma schedule_if_next_irq_state_of_state:
-  "(r, b) \<in> fst (schedule_if uc i_s) \<Longrightarrow> next_irq_state_of_state b = next_irq_state_of_state i_s"
+  "\<lbrakk> (r, b) \<in> fst (schedule_if uc i_s); domain_sep_inv False st i_s; valid_irq_states i_s \<rbrakk>
+     \<Longrightarrow> next_irq_state_of_state b = next_irq_state_of_state i_s"
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy:3064]: indentation

File: proof/infoflow/Scheduler_IF.thy [hunk 144]
```diff
@@ -2328,17 +2490,11 @@ lemma thread_set_reads_respect_scheduler[wp]:
...
-    apply (simp add: thread_set_def)
-    apply wp
-    apply (fastforce simp: scheduler_affects_equiv_def get_tcb_def states_equiv_for_def
-                           equiv_for_def scheduler_equiv_def domain_fields_equiv_def equiv_asids_def
-                    split: option.splits kernel_object.splits)+
+  apply (wp thread_set_reads_respects_scheduler)
+  apply (clarsimp simp: valid_tcb_context_update_def)
   done
 
+
```
Comment (Xaphiosis) [inline proof/infoflow/Scheduler_IF.thy]: extra newline

File: proof/infoflow/Scheduler_IF.thy [hunk 145]
```diff
@@ -967,20 +1022,30 @@ lemma globals_equiv_scheduler[wp]:
 end
 
 
+definition valid_tcb_context_update where
+  "valid_tcb_context_update f \<equiv>
+     \<forall>tcb tcb'. arch_tcb_context_get (tcb_arch tcb) = arch_tcb_context_get (tcb_arch tcb')
+            \<longrightarrow> arch_tcb_context_get (tcb_arch (f tcb)) = arch_tcb_context_get (tcb_arch (f tcb'))"
```
Comment (Xaphiosis) [inline proof/infoflow/Scheduler_IF.thy]: --> should be under `arch`

File: proof/infoflow/Scheduler_IF.thy [hunk 146]
```diff
@@ -26,6 +76,15 @@ definition domain_fields_equiv :: "det_state \<Rightarrow> det_state \<Rightarro
                             \<and> domain_start_index s = domain_start_index s'
                             \<and> domain_list s = domain_list s'"
 
+lemma domain_fields_equiv_lift:
+  assumes a: "\<And>P. \<lbrace>domain_fields P and Q\<rbrace> f \<lbrace>\<lambda>_. domain_fields P\<rbrace>"
+  assumes b: "\<And>P. \<lbrace>(\<lambda>s. P (cur_domain s)) and R\<rbrace> f \<lbrace>\<lambda>_ s. P (cur_domain s)\<rbrace>"
+  shows "\<lbrace>domain_fields_equiv st and Q and R\<rbrace> f \<lbrace>\<lambda>_. domain_fields_equiv st\<rbrace>"
+  apply (clarsimp simp: valid_def domain_fields_equiv_def)
+  apply (erule use_valid, wp a b)
```
Comment (Xaphiosis) [inline proof/infoflow/Scheduler_IF.thy]: at this point the names aren't useful, might as well remove them and use assms

File: proof/infoflow/Noninterference.thy [hunk 147]
```diff
@@ -683,14 +675,48 @@ locale Noninterference_1 =
...
+    "\<lbrakk> partitionIntegrity aag s s'; kheap s x = Some (TCB tcb);
+       kheap s' x = Some (TCB tcb'); tcb' = tcb\<lparr>tcb_arch := new_arch\<rparr>;
+       arch_tcb_get_registers new_arch =
+       arch_tcb_get_registers (tcb_arch tcb);
+       tcb_hyp_refs new_arch = tcb_hyp_refs (tcb_arch tcb);
+       kheap s x \<noteq> kheap s' x; silc_inv aag st s;
+       pas_wellformed_noninterference aag; pas_refined aag s;
+       pas_refined aag s'; pas_cur_domain aag s; pas_cur_domain aag s';
+       cur_fpu_in_cur_domain s; cur_fpu_in_cur_domain s'; invs s; invs s'\<rbrakk>
+       \<Longrightarrow> subject_can_affect_label_directly aag (pasObjectAbs aag x)"
```
Comment (Xaphiosis) [inline proof/infoflow/Noninterference.thy]: the indentation on the `⟹` is misleading, it should be under `⟦`, and same goes for the three above it

File: proof/infoflow/InfoFlow_IF.thy [hunk 148]
```diff
@@ -78,86 +78,165 @@ lemma states_equiv_forI:
...
+  and equiv_fpuI:
+    "\<lbrakk> \<And>x. P x \<Longrightarrow> equiv_fpu ((=) x) s t \<rbrakk>
+    \<Longrightarrow> equiv_fpu P s t"
+  and equiv_fpu_triv:
+    "\<lbrakk> equiv_fpu P s s'; arch_state t = arch_state s; arch_state t' = arch_state s';
+       machine_state t = machine_state s; machine_state t' = machine_state s' \<rbrakk>
+       \<Longrightarrow> equiv_fpu P t t'"
+  and equiv_fpu_machine_state_update:
+    "\<lbrakk> equiv_fpu P s s'; identical_fpu_state_updates P s s' ms ms' \<rbrakk>
+       \<Longrightarrow> equiv_fpu P (s\<lparr>machine_state := ms\<rparr>) (s'\<lparr>machine_state := ms'\<rparr>)"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy]: please fix the `⟹` indentation on all the added assumptions

File: proof/infoflow/InfoFlow_IF.thy [hunk 149]
```diff
@@ -78,86 +78,165 @@ lemma states_equiv_forI:
...
     "\<lbrakk> globals_equiv s t; globals_equiv t u \<rbrakk> \<Longrightarrow> globals_equiv s u"
-  and equiv_asids_guard_imp:
-    "\<lbrakk> equiv_asids R s s'; \<And>x. Q x \<Longrightarrow> R x \<rbrakk> \<Longrightarrow> equiv_asids Q s s'"
-  and dmo_loadWord_rev:
-    "reads_equiv_valid_inv A aag (K (for_each_byte_of_word (aag_can_read aag) p))
-                                 (do_machine_op (loadWord p))"
 begin
 
+lemma equiv_asids_False:
+    "(\<And>x. R x \<Longrightarrow> False) \<Longrightarrow> equiv_asids R x y"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy]: indentation

File: proof/infoflow/InfoFlow_IF.thy [hunk 150]
```diff
@@ -329,8 +423,11 @@ lemma globals_equiv_updates[simp]:
   by (simp add: globals_equiv_def idle_equiv_def)+
 
 lemma reads_equiv_machine_state_update:
-  "\<lbrakk> reads_equiv aag s s'; equiv_machine_state (aag_can_read aag) kh kh'; irq_state kh = irq_state kh' \<rbrakk>
-     \<Longrightarrow> reads_equiv aag (s\<lparr>machine_state := kh\<rparr>) (s'\<lparr>machine_state := kh'\<rparr>)"
+  "\<lbrakk> reads_equiv aag s s'; equiv_machine_state (aag_can_read aag) ms ms';
+     irq_state ms = irq_state ms';
+     identical_hyp_state_updates (aag_can_read aag) s s' ms ms';
+     identical_fpu_state_updates (aag_can_read aag) s s' ms ms' \<rbrakk>
+     \<Longrightarrow> reads_equiv aag (s\<lparr>machine_state := ms\<rparr>) (s'\<lparr>machine_state := ms'\<rparr>)"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy:430]: indentation

File: proof/infoflow/InfoFlow_IF.thy [hunk 151]
```diff
@@ -633,6 +739,12 @@ lemma requiv_get_tcb_eq[intro]:
      \<Longrightarrow> get_tcb thread s = get_tcb thread t"
   by (auto simp: reads_equiv_def2 get_tcb_def elim: states_equiv_forE_kheap)
 
+(* FIXME AARCH64 IF: delete if unused *)
+lemma requiv_get_tcb_eq'[intro]:
+  "\<lbrakk> reads_equiv aag s t; aag_can_read aag thread \<rbrakk>
+     \<Longrightarrow> get_tcb thread s = get_tcb thread t"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy:745]: indentation

File: proof/infoflow/InfoFlow_IF.thy [hunk 152]
```diff
@@ -789,21 +898,32 @@ lemma gets_ready_queues_revrv:
   apply (clarsimp simp: equiv_for_def disjoint_iff_not_equal elim!: reads_equivE affects_equivE)
   done
 
+lemma reads_affects_equiv_kheap_eq:
+  "\<lbrakk> reads_equiv aag s s'; affects_equiv aag l s s'; aag_can_affect aag l x \<or> aag_can_read aag x \<rbrakk>
+     \<Longrightarrow> kheap s x = kheap s' x"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy:903]: indentation

File: proof/infoflow/InfoFlow_IF.thy [hunk 153]
```diff
@@ -789,21 +898,32 @@ lemma gets_ready_queues_revrv:
...
+  by (fastforce elim: affects_equivE reads_equivE equiv_forE)
+
+lemma reads_affects_equiv_get_tcb_eq:
+  "\<lbrakk> aag_can_read aag t \<or> aag_can_affect aag l t; reads_equiv aag s s'; affects_equiv aag l s s' \<rbrakk>
+     \<Longrightarrow> get_tcb t s = get_tcb t s'"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy:908]: indentation

File: proof/infoflow/InfoFlow_IF.thy [hunk 154]
```diff
@@ -989,23 +1071,120 @@ lemma invs_kernel_mappings:
...
+  apply (drule_tac x=t in spec, simp)
+  apply (drule bspec, assumption)
+  apply simp
   done
 
 end
 
+lemma tcb_domain_wellformed:
+  "\<lbrakk> pas_refined aag s; etcbs_of s t = Some a \<rbrakk>
+     \<Longrightarrow> pasObjectAbs aag t \<in> pasDomainAbs aag (etcb_domain a)"
```
Comment (Xaphiosis) [inline proof/infoflow/InfoFlow_IF.thy:1122]: indentation

File: proof/infoflow/AARCH64/ArchUserOp_IF.thy [hunk 155]
```diff
@@ -475,19 +457,34 @@ lemma level_le_2_cases:
...
-    apply (erule bit0.zero_least)
+    apply (erule bit_zero_least)
    apply clarsimp
   apply clarsimp
   done
 
+lemma pt_walk_vref_for_levelD:
+  "\<lbrakk> pt_walk top_level bot_level pt vref ptes = Some (level,ptr);
+     level \<le> top_level; top_level \<le> max_pt_level \<rbrakk>
+     \<Longrightarrow> pt_walk top_level bot_level pt (vref_for_level vref level) ptes = Some (level,ptr)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchUserOp_IF.thy:470]: indentation

File: proof/infoflow/AARCH64/ArchUserOp_IF.thy [hunk 156]
```diff
@@ -839,12 +817,12 @@ declare valid_vspace_objs_if_def[simp]
...
-  AARCH64.context_matches_state
+arch_requalify_consts
+  do_user_op_if
+  valid_vspace_objs_if
+  context_matches_state
 
-requalify_facts
-  AARCH64.do_user_op_reads_respects_g
+arch_requalify_facts
+  do_user_op_reads_respects_g
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchUserOp_IF.thy:830]: suggest `(* requalify interface lemmas which can't be locale assumptions due to free type variable *)` for this one

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 157]
```diff
@@ -66,6 +80,80 @@ lemma equiv_asids_triv[InfoFlow_IF_assms]:
...
+
+lemma equiv_fpu_triv[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_fpu P s s'; arch_state t = arch_state s; arch_state t' = arch_state s';
+     machine_state t = machine_state s; machine_state t' = machine_state s' \<rbrakk>
+     \<Longrightarrow> equiv_fpu P t t'"
+  by (fastforce simp: equiv_fpu_triv')
+
+lemma equiv_fpu_machine_state_update[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_fpu P s s'; identical_fpu_state_updates P s s' ms ms' \<rbrakk>
+     \<Longrightarrow> equiv_fpu P (s\<lparr>machine_state := ms\<rparr>) (s'\<lparr>machine_state := ms'\<rparr>)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:152]: indentation on this and previous two lemmas

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 158]
```diff
@@ -66,6 +80,80 @@ lemma equiv_asids_triv[InfoFlow_IF_assms]:
...
+
+lemma equiv_hyp_triv[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_hyp P s s'; arch_state t = arch_state s; arch_state t' = arch_state s';
+     machine_state t = machine_state s; machine_state t' = machine_state s' \<rbrakk>
+     \<Longrightarrow> equiv_hyp P t t'"
+  by (fastforce simp: equiv_hyp_triv')
+
+lemma equiv_hyp_machine_state_update[InfoFlow_IF_assms]:
+  "\<lbrakk> equiv_hyp P s s'; identical_hyp_state_updates P s s' ms ms' \<rbrakk>
+     \<Longrightarrow> equiv_hyp P (s\<lparr>machine_state := ms\<rparr>) (s'\<lparr>machine_state := ms'\<rparr>)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:118]: indentation and on previous two lemmas

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 159]
```diff
@@ -79,9 +167,32 @@ lemma globals_equiv_trans[InfoFlow_IF_assms]:
...
+  shows "equiv_fpu P s t"
+  using assms by (fastforce simp: equiv_fpu_def equiv_for_def)
+
+end
+
+arch_requalify_consts
+  identical_hyp_state_updates
+  identical_fpu_state_updates
+
+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:186]: to me the requalify and the interpretation are related, maybe no extra newline?

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 160]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+definition no_hyp :: "'a machine_monad \<Rightarrow> bool" where
+  "no_hyp f \<equiv> \<forall>P. \<lbrace>\<lambda>s. P (vcpu_state s)\<rbrace> f \<lbrace>\<lambda>_ s. P (vcpu_state s)\<rbrace>"
+
+definition no_fpu :: "'a machine_monad \<Rightarrow> bool" where
+  "no_fpu f \<equiv> \<forall>P. \<lbrace>\<lambda>s. P (fpu_state s)\<rbrace> f \<lbrace>\<lambda>_ s. P (fpu_state s)\<rbrace>"
+
+lemma equiv_hyp_state_identical_hyp_state_updates:
+  "\<lbrakk> equiv_hyp_state (numlistregs s) (cur_vcpu_for P s) ms ms'; equiv_hyp P s t \<rbrakk>
+       \<Longrightarrow> identical_hyp_state_updates P s t ms ms'"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy]: indentation

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 161]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  "cur_vcpu_for_2 P None = None"
+  by (clarsimp simp: cur_vcpu_for_def)
+
+lemma cur_vcpu_for_Some:
+  "cur_vcpu_for_2 P (Some (a,b)) = (if P a then Some b else None)"
+  by (clarsimp simp: cur_vcpu_for_def)
+
+lemma cur_vcpu_for_equiv:
+  "\<lbrakk> reads_equiv aag st s; affects_equiv aag l st s \<rbrakk>
+     \<Longrightarrow> cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) st = cur_vcpu_for (aag_can_read aag or aag_can_affect aag l) s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:269]: indentation

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 162]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+   apply (erule equiv_forE)
+   apply (erule_tac x=aa in meta_allE)
+   apply (drule (1) meta_mp)
+   apply (clarsimp simp: cur_vcpu_of_def split: if_splits)
+  apply (clarsimp simp: cur_vcpu_for_Some)
+  done
+
+lemma aequiv_get_tcb_eq'[intro]:
+  "\<lbrakk> affects_equiv aag l s t; aag_can_affect aag l thread \<rbrakk>
+     \<Longrightarrow> get_tcb thread s = get_tcb thread t"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:307]: indentation

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 163]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+
+lemma equiv_fpu_cur_fpu_for:
+  "equiv_fpu P st s \<Longrightarrow> cur_fpu_for P st = cur_fpu_for P s"
+  apply (clarsimp simp: equiv_fpu_def equiv_for_def cur_fpu_for_def)
+  apply (rule iffI; erule ex_forward; erule_tac x=ptr in allE; clarsimp simp: hw_fpu_def split: if_splits)
+  done
+
+lemma cur_fpu_for_equiv:
+  "\<lbrakk> reads_equiv aag st s; affects_equiv aag l st s \<rbrakk>
+     \<Longrightarrow> cur_fpu_for (aag_can_read aag or aag_can_affect aag l) st =
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:321]: indentation

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 164]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+         cur_fpu_for (aag_can_read aag or aag_can_affect aag l) s"
+  apply (prop_tac "equiv_fpu (aag_can_read aag or aag_can_affect aag l) st s")
+   apply (clarsimp simp: reads_equiv_def2 affects_equiv_def2 states_equiv_for_def equiv_fpu_def equiv_for_def)
+  apply (simp add: equiv_fpu_cur_fpu_for)
+  done
+
+lemma equiv_fpu_state_identical_fpu_state_updates:
+  "\<lbrakk> equiv_fpu_state (cur_fpu_for P s) ms ms'; equiv_fpu P s t \<rbrakk>
+     \<Longrightarrow> identical_fpu_state_updates P s t ms ms'"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:330]: indentation

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy [hunk 165]
```diff
@@ -109,10 +220,335 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  apply (erule_tac x=x in allE, clarsimp)
+  apply (auto simp: cur_fpu_for_def hw_fpu_def get_tcb_def identical_updates_rv_def split: if_splits option.splits kernel_object.splits)
+  done
+
+definition numlistregs_for :: "(obj_ref \<Rightarrow> bool) \<Rightarrow> 's state \<Rightarrow> nat" where
+  "numlistregs_for P s \<equiv> if \<exists>p. P p then numlistregs s else undefined"
+
+lemma numlistregs_for_equiv:
+  "\<lbrakk> reads_equiv aag st s; affects_equiv aag l st s \<rbrakk>
+     \<Longrightarrow> numlistregs_for (aag_can_read aag or aag_can_affect aag l) st = numlistregs_for (aag_can_read aag or aag_can_affect aag l) s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:343]: indentation

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 166]
```diff
@@ -107,6 +107,114 @@ lemma integrity_asids_update_reference_state[Noninterference_assms]:
     \<Longrightarrow> integrity_asids aag {pasSubject aag} x a s (s\<lparr>kheap := (kheap s)(t \<mapsto> blah)\<rparr>)"
   by (clarsimp simp: integrity_asids_def opt_map_def)
 
+lemma partitionIntegrity_cur_vcpu_None:
+   "\<lbrakk> partitionIntegrity aag s s'; valid_objs s; valid_objs s';
+      cur_vcpu_of s x = None; cur_vcpu_of s' x = None; vcpu_at x s \<rbrakk>
+     \<Longrightarrow> is_subject aag x \<or> kheap s x = kheap s' x"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indentation

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 167]
```diff
@@ -107,6 +107,114 @@ lemma integrity_asids_update_reference_state[Noninterference_assms]:
...
+  apply (case_tac vcpu_vgic; case_tac vcpu_vgica; clarsimp)
+  apply (rule ext)
+  apply (drule_tac x=xa in fun_cong)+
+  apply (auto split: if_splits)
+  done
+
+lemma partitionIntegrity_cur_vcpu_Some:
+  "\<lbrakk> invs s; pas_refined aag s; pas_cur_domain aag s; pas_domains_distinct aag;
+     cur_vcpu_in_cur_domain s; current_vcpu s = Some (vr,b) \<rbrakk>
+     \<Longrightarrow> is_subject aag vr"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy:152]: indentation

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 168]
```diff
@@ -215,9 +329,194 @@ next
...
+  by (clarsimp simp: partitionIntegrity_def integrity_subjects_def integrity_hyp_def equiv_for_def)
+
+lemma partitionIntegrity_subjectAffects_cur_vcpu_of:
+   "\<lbrakk> invs s; invs s';
+      cur_vcpu_in_cur_domain s; cur_vcpu_in_cur_domain s';
+      pas_refined aag s; pas_refined aag s';
+      pas_cur_domain aag s; pas_cur_domain aag s';
+      pas_domains_distinct aag;
+      \<not> equiv_for (\<lambda>x. pasObjectAbs aag x = a) cur_vcpu_of s s' \<rbrakk>
+       \<Longrightarrow> a \<in> subjectAffects (pasPolicy aag) (pasSubject aag)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indentation

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 169]
```diff
@@ -215,9 +329,194 @@ next
...
+  done
+
+lemma partitionIntegrity_subjectAffects_hw_vcpu:
+   "\<lbrakk> invs s; invs s';
+      cur_vcpu_in_cur_domain s; cur_vcpu_in_cur_domain s';
+      pas_refined aag s; pas_refined aag s';
+      pas_cur_domain aag s; pas_cur_domain aag s';
+      pas_domains_distinct aag;
+      \<not> equiv_for (\<lambda>x. pasObjectAbs aag x = a) hw_vcpu_of s s' \<rbrakk>
+       \<Longrightarrow> a \<in> subjectAffects (pasPolicy aag) (pasSubject aag)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indentation

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 170]
```diff
@@ -215,9 +329,194 @@ next
...
+  done
+
+lemma partitionIntegrity_subjectAffects_tcb_fpu':
+   "\<lbrakk> partitionIntegrity aag s s'; valid_cur_fpu s; valid_cur_fpu s';
+      kheap s x = Some (TCB tcb); kheap s' x = Some (TCB tcb');
+      tcb' = tcb\<lparr>tcb_arch := new_arch\<rparr>;
+      arch_tcb_get_registers new_arch = arch_tcb_get_registers (tcb_arch tcb);
+      tcb_hyp_refs new_arch = tcb_hyp_refs (tcb_arch tcb);
+      current_fpu s \<noteq> Some x; current_fpu s' \<noteq> Some x \<rbrakk>
+     \<Longrightarrow> is_subject aag x \<or> kheap s x = kheap s' x"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy]: indentation, and on three previous lemmas

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 171]
```diff
@@ -378,39 +712,101 @@ lemma dmo_getActive_IRQ_reads_respect_scheduler[Noninterference_assms]:
...
+  partitionIntegrity_subjectAffects_fpu
+  partitionIntegrity_subjectAffects_tcb_fpu
 
 end
 
 
-requalify_consts AARCH64.arch_globals_equiv_strengthener
-requalify_facts AARCH64.arch_globals_equiv_strengthener_thread_independent
+arch_requalify_consts arch_globals_equiv_strengthener
+arch_requalify_facts arch_globals_equiv_strengthener_thread_independent
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy:802]: do you know why this one can't be interfaced with the constant as a locale parameter?

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 172]
```diff
@@ -215,77 +343,459 @@ lemma store_cur_thread_fragment_midstrength_reads_respects:
...
-     (arch_switch_to_thread t)"
-  apply (rule reads_respects_scheduler_cases)
-     apply (simp add: arch_switch_to_thread_def)
-     apply wp
-    apply (clarsimp simp: scheduler_equiv_def globals_equiv_scheduler_def)
-   apply (simp add: arch_switch_to_thread_def)
-   apply wp
+lemma equiv_valid_inv_split_lr':
+  "\<lbrakk> equiv_valid_inv I B P f; equiv_valid_rv_inv I C \<top>\<top> P f; \<And>s t. A s t \<longleftrightarrow> B s t \<and> C s t \<rbrakk>
+     \<Longrightarrow> equiv_valid_inv I A P f"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: indentation and on next lemma

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 173]
```diff
@@ -215,77 +343,459 @@ lemma store_cur_thread_fragment_midstrength_reads_respects:
...
+  arch_switch_to_idle_thread_silc_dom_equiv
+  set_scheduler_action_cur_vcpu_in_cur_domain
+  set_scheduler_action_cur_fpu_in_cur_domain
+  tcb_sched_action_cur_vcpu_in_cur_domain
+  tcb_sched_action_cur_fpu_in_cur_domain
+  next_domain_snippet_cur_vcpu_in_cur_domain
+  next_domain_snippet_cur_fpu_in_cur_domain
+  arch_prepare_next_domain_silc_dom_equiv
+  arch_prepare_next_domain_typ_at
+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy:485]: extra newline

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 174]
```diff
@@ -215,77 +343,459 @@ lemma store_cur_thread_fragment_midstrength_reads_respects:
...
+   apply simp
+   apply wps
+   apply wpsimp
+  apply simp
+  using wellformed apply (clarsimp simp: vcpu_invisible)
+  done
+
+lemma tcb_controls_associated_vcpu:
+  "\<lbrakk> pas_refined aag s; get_tcb t s = Some tcb; tcb_vcpu (tcb_arch tcb) = Some v \<rbrakk>
+     \<Longrightarrow> (t, Control, v) \<in> state_objs_to_policy s"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy:756]: indentation and on next lemma

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 175]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
   "reads_respects_scheduler aag l \<top> (arch_activate_idle_thread rv)"
   unfolding arch_activate_idle_thread_def by wpsimp
 
-lemma arch_prepare_next_domain_ev[Scheduler_IF_assms]:
-  "equiv_valid_inv I A (\<lambda>_. True) arch_prepare_next_domain"
-  unfolding arch_prepare_next_domain_def by wp
+lemma tcb_visible:
+  "\<lbrakk> reads_scheduler_cur_domain aag l s; pas_refined aag s;
+     pas_domains_distinct aag; in_cur_domain t s; tcb_at t s \<rbrakk>
+    \<Longrightarrow> pasObjectAbs aag t \<in> reads_scheduler aag l"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: indentation and on next two lemmas

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 176]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
+     apply (rule wp_pre)
+      apply (rule scheduler_equiv_lift' [OF globals_equiv_scheduler_inv'])
+           apply (wpsimp | erule conjunct1)+
+    apply (rule wp_pre)
+     apply (wp vcpu_flush_unobservable)
+    apply clarsimp
+    apply (clarsimp simp: scheduler_equiv_def scheduler_affects_equiv_def domain_fields_equiv_def)
+    apply assumption
+   apply clarsimp
+   apply assumption
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy:1269]: clarsimp+assumption is strange, at that point fastforce or simp or something would make more sense?

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 177]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
+
+lemma vcpu_invalidate_active_states_equiv_valid:
+  "states_equiv_valid aag L (\<lambda>s. cur_vcpu_for (L o pasObjectAbs aag) s \<noteq> None) vcpu_invalidate_active"
+  unfolding vcpu_invalidate_active_def
+  apply wp
+      apply (wpsimp wp: vcpu_disable_None_states_equiv_valid)
+     apply wpsimp
+    apply (rule gets_arm_current_vcpu_states_equiv_valid)
+   apply wpsimp
+  apply clarsimp
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: can't this be one-lined, if you give the wp rules to wpsimp and also `gets_arm_current_vcpu_states_equiv_valid` as either a simp or wp rule?

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 178]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
+  done
+
+lemma vcpu_invalidate_active_equiv_but_for_labels[wp]:
+  "\<lbrace>\<lambda>s. equiv_but_for_labels aag L st s \<and> (\<forall>vr b. current_vcpu s = Some (vr,b) \<longrightarrow> pasObjectAbs aag vr \<in> L)\<rbrace>
+   vcpu_invalidate_active
+   \<lbrace>\<lambda>_. equiv_but_for_labels aag L st\<rbrace>"
+  unfolding vcpu_invalidate_active_def
+  apply (wpsimp wp: modify_current_vcpu_equiv_but_for_labels'')
+  apply (auto simp: cur_vcpu_for_def)
+  done
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: by

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 179]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
+    apply wpsimp
+   apply wpsimp
+  apply clarsimp
+  done
+
+lemma invs_valid_numlistregs [elim!]:
+  "invs s \<Longrightarrow> valid_numlistregs s"
+  apply (drule invs_arch_state)
+  apply (simp add: valid_arch_state_def)
+  done
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy]: use by for two-liners, same on next lemma

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy [hunk 180]
```diff
@@ -354,48 +884,690 @@ lemma thread_set_scheduler_affects_equiv[Scheduler_IF_assms, wp]:
...
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact Scheduler_IF_assms)?)
+    by (unfold_locales; (fact Scheduler_IF_assms[folded cur_hyp_in_cur_domain_def])?)
 qed
 
 
 hide_fact Scheduler_IF_2.globals_equiv_scheduler_inv'
-requalify_facts AARCH64.globals_equiv_scheduler_inv'
+arch_requalify_facts globals_equiv_scheduler_inv'
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchScheduler_IF.thy:1555]: I don't understand... what's going on here? (as in, why are we doing this)

File: proof/infoflow/refine/AARCH64/Example_Valid_StateH.thy [hunk 181]
```diff
@@ -9,6 +9,53 @@ theory Example_Valid_StateH
...
+lemma pg_index_bits_def2:
+  "pg_index_bits \<equiv> if config_ARM_PA_SIZE_BITS_40 then 9 else 18"
+  apply (rule eq_reflection)
+  apply (simp add: pg_index_bits_def max_page_size_def bit_simps)
+  done
+
+lemma pg_index_bits_ge0[simp, intro!]: "0 < pg_index_bits"
+  by (simp add: pg_index_bits_def2)
+
+typedef pg_index_len = "{n :: nat. n < pg_index_bits}" by auto
```
Comment (Xaphiosis) [inline proof/infoflow/refine/AARCH64/Example_Valid_StateH.thy:28]: I realise this file is under fog of major cleanup, but I would appreciate a reminder of that `pg` stands for, and why pg_index_bits_def2 ends up with such a wide swing between 9 and 18. I'm completely lost looking at this.

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 182]
```diff
@@ -558,6 +596,34 @@ lemma preserves'_trivial: "preserves' mode UNIV f"
...
+
+context kernel_m begin
+
+lemma cur_thread_of_absKState[simp]:
+   "cur_thread (absKState s) = (ksCurThread s)"
+   by (clarsimp simp: cstate_relation_def Let_def absKState_def cstate_to_H_def)
+
+lemma absKState_crelation:
+  "\<lbrakk> cstate_relation s (globals s'); invs' s; ksReadyQueues_asrt s\<rbrakk>
+   \<Longrightarrow>  cstate_to_A s' = absKState s"
```
Comment (Xaphiosis) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: trim double space

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 183]
```diff
@@ -558,6 +596,34 @@ lemma preserves'_trivial: "preserves' mode UNIV f"
   apply (simp add: preserves'_def)
   done
 
+lemma corres_select_f':
+  "\<lbrakk> \<And>s s'. P s \<Longrightarrow> P' s' \<Longrightarrow> \<forall>s' \<in> fst S'. \<exists>s \<in> fst S. rvr s s'; nf' \<Longrightarrow> \<not> snd S' \<rbrakk>
+     \<Longrightarrow> corres_underlying sr nf nf' rvr P P' (select_f S) (select_f S')"
```
Comment (Xaphiosis) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: indentation

File: proof/infoflow/refine/ADT_IF_Refine_C.thy [hunk 184]
```diff
@@ -82,19 +82,77 @@ definition handleVMFaultEvent_C_body_if
...
+             (maybeHandleInterrupt inKernel) (Call checkInterrupt_'proc)"
+  and hvmf_invs_lift:
+    "\<lbrakk> \<And>s m. P (s\<lparr>ksMachineState := ksMachineState s\<lparr>machine_state_rest := m\<rparr>\<rparr>) = P s \<rbrakk>
+       \<Longrightarrow> \<lbrace>P\<rbrace> handleVMFault t hf \<lbrace>\<lambda>_ _. True\<rbrace>, \<lbrace>\<lambda>_. P\<rbrace>"
+  and check_active_irq_corres_C:
+    "corres_underlying rf_sr False False (=) \<top> \<top> (checkActiveIRQ_if tc) (checkActiveIRQ_C_if tc)"
+  and obs_cpspace_user_data_relation:
+    "\<lbrakk> pspace_aligned' bd; pspace_distinct' bd;
+       cpspace_user_data_relation (ksPSpace bd) (underlying_memory (ksMachineState bd)) hgs \<rbrakk>
+       \<Longrightarrow> cpspace_user_data_relation (ksPSpace bd)
```
Comment (Xaphiosis) [inline proof/infoflow/refine/ADT_IF_Refine_C.thy]: indentation

Comment (Xaphiosis) [reply proof/infoflow/refine/ADT_IF_Refine_C.thy]: (and two assumptions above)

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 185]
```diff
@@ -224,10 +207,120 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+      \<acute>ret__unsigned_long :== scast EXCEPTION_NONE"
+
+definition hyp_fault_type_from_H :: "hyp_fault_type \<Rightarrow> machine_word" where
+  "hyp_fault_type_from_H fault \<equiv>
+    case fault of hyp_fault_type.ARMVCPUFault f \<Rightarrow> ucast f"
+
+lemma handleHypervisorFault_C_body_ccorres[ADT_IF_Refine_assms]:
+  "ccorres (K dc \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
+           (invs' and arch_extras and ct_running' and (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread))
+           (UNIV) []
```
Comment (Xaphiosis) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy:231]: no parens for UNIV

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy [hunk 186]
```diff
@@ -224,10 +207,120 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
   apply simp
   done
 
+
+definition handleHypervisorFault_C_body_if :: "machine_word \<Rightarrow> (globals myvars, int, strictc_errortype) com"
+  where
+  "handleHypervisorFault_C_body_if hyp_fault_type ==
+      IF hyp_fault_type = 0x2000000 \<comment> \<open>UNKNOWN_FAULT\<close> THEN
```
Comment (Xaphiosis) [inline proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy:214]: hmm, any reason why you prefer the magic number here over a constant?

File: proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy [hunk 187]
```diff
@@ -224,10 +205,91 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+     apply (solves clarsimp)
+    apply (wpsimp wp: dmo_getActiveIRQ_inKernel_sch_act_not)
+    apply assumption
+   apply assumption
+  apply (clarsimp simp: invs'_def valid_state'_def)
+  done
+
+lemma hvmf_invs_lift[ADT_IF_Refine_assms]:
+    "\<lbrakk> \<And>s m. P (s\<lparr>ksMachineState := ksMachineState s\<lparr>machine_state_rest := m\<rparr>\<rparr>) = P s \<rbrakk>
+       \<Longrightarrow> \<lbrace>P\<rbrace> handleVMFault t hf \<lbrace>\<lambda>_ _. True\<rbrace>, \<lbrace>\<lambda>_. P\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy]: indentation

File: proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy [hunk 188]
```diff
@@ -224,10 +205,91 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
   apply simp
   done
 
+lemma irqInvalid_eq[simp]:
+  "ucast irqInvalid = scast Kernel_C.irqInvalid"
+  by (simp add: irqInvalid_def Kernel_C.irqInvalid_def)
```
Comment (Xaphiosis) [inline proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy]: this doesn't feel like something I'd want to be [simp]; we have similar lemmas in Wellformed_C, but to have an `scast` appear out of thin air on the haskell side after a simp would not be nice. Even if we were to embrace doing this automatically, my instinct would be to have the simp to go the other way around.

File: proof/infoflow/refine/ARM/ArchADT_IF_Refine_C.thy [hunk 189]
```diff
@@ -298,10 +283,78 @@ lemma obs_cpspace_user_data_relation[ADT_IF_Refine_assms]:
...
+     apply (solves clarsimp)
+    apply (wpsimp wp: getActiveIRQ_le_maxIRQ)
+    apply assumption
+   apply assumption
+  apply (clarsimp simp: invs'_def valid_state'_def)
+  done
+
+lemma hvmf_invs_lift[ADT_IF_Refine_assms]:
+    "\<lbrakk> \<And>s m. P (s\<lparr>ksMachineState := ksMachineState s\<lparr>machine_state_rest := m\<rparr>\<rparr>) = P s \<rbrakk>
+       \<Longrightarrow> \<lbrace>P\<rbrace> handleVMFault t hf \<lbrace>\<lambda>_ _. True\<rbrace>, \<lbrace>\<lambda>_. P\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/refine/ARM/ArchADT_IF_Refine_C.thy]: indentation

File: proof/infoflow/RISCV64/ArchUserOp_IF.thy [hunk 190]
```diff
@@ -566,9 +566,20 @@ proof -
...
+     apply (drule pt_lookup_vs_lookupI)
+     apply (fastforce simp: table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+      apply (clarsimp simp: table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+    apply (rule_tac x=asid in exI)
+     apply (rule_tac x=x in exI)
+     apply (subst table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+           apply fastforce
+           apply fastforce
+           apply fastforce
+           apply fastforce
```
Comment (Xaphiosis) [inline proof/infoflow/RISCV64/ArchUserOp_IF.thy]: indentation to show subgoals solved by fastforce? possibility of compression via `+` or `;`?

File: proof/infoflow/RISCV64/ArchUserOp_IF.thy [hunk 191]
```diff
@@ -109,7 +109,7 @@ global_interpretation UserOp_IF_1?: UserOp_IF_1
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact UserOp_IF_assms)?)
+    by (unfold_locales; (fact UserOp_IF_assms | solves \<open>rule equiv_arch_taut\<close>)?)
```
Comment (Xaphiosis) [inline proof/infoflow/RISCV64/ArchUserOp_IF.thy:112]: I would want this approach reconsidered. It's not a good move to add logic to these interpretations. They're supposed to be simple. If we start adding rule, wp and simp, then it sets a bad future precedent, and makes it hard to fix these when they break.
This also happens in `ArchTcb_IF.thy`, `ArchSyscall_IF.thy`, `ArchScheduler_IF.thy`.
If there's some really good reason for why it is unavoidable, then there should be a comment explaining why.

I think this commit (`proof update for infoflow changes`) is the only one that does this, but it does it quite a bit, so I'd be creating a lot of noise commenting on every instance.

File: proof/infoflow/RISCV64/ArchInfoFlow_IF.thy [hunk 192]
```diff
@@ -83,6 +83,72 @@ lemma equiv_asids_guard_imp[InfoFlow_IF_assms]:
...
+  "no_fpu f"
+  by (simp add: no_fpu_def)
+
+lemmas equiv_arch_taut =
+  equiv_hyp_taut
+  equiv_fpu_taut
+  identical_hyp_states_updates_taut
+  identical_fpu_states_updates_taut
+  no_hyp_taut
+  no_fpu_taut
```
Comment (Xaphiosis) [inline proof/infoflow/RISCV64/ArchInfoFlow_IF.thy:131]: you might want to consider adding this to `InfoFlow_IF_assms` and then you shouldn't need the `| solves ‹rule equiv_arch_taut›` during interpretation

File: proof/infoflow/ARM/ArchScheduler_IF.thy [hunk 193]
```diff
@@ -456,15 +496,54 @@ lemma arch_prepare_next_domain_ev[Scheduler_IF_assms]:
...
 
+lemma arch_switch_to_thread_silc_dom_equiv[Scheduler_IF_assms,wp]:
+  "arch_switch_to_thread t \<lbrace>silc_dom_equiv aag (st :: det_state)\<rbrace>"
+  by (wpsimp wp: silc_dom_lift)
+
+lemma arch_switch_to_idle_thread_silc_dom_equiv[Scheduler_IF_assms,wp]:
+  "arch_switch_to_idle_thread \<lbrace>silc_dom_equiv aag (st :: det_state)\<rbrace>"
+  by (wpsimp wp: silc_dom_lift)
+
+
```
Comment (Xaphiosis) [inline proof/infoflow/ARM/ArchScheduler_IF.thy]: extra newline

File: proof/infoflow/ARM/ArchInfoFlow_IF.thy [hunk 194]
```diff
@@ -107,14 +173,45 @@ lemma dmo_loadWord_rev[InfoFlow_IF_assms]:
...
+  and no_fpu: "no_fpu f"
+  shows
+  "reads_respects aag l P (do_machine_op f)"
+  apply (rule use_spec_ev)
+  unfolding do_machine_op_def spec_equiv_valid_def
+  apply (rule equiv_valid_2_guard_imp)
+   apply (rule_tac  R'="\<lambda> rv rv'. equiv_machine_state (aag_can_read aag or aag_can_affect aag l) rv rv' \<and> equiv_irq_state rv rv'" and Q="\<lambda> r s. st = s \<and> Q r" and Q'="\<lambda> r s. Q r" and P="(=) st" and P'="\<top>" in equiv_valid_2_bind)
+       apply (rule gen_asm_ev2_l[simplified K_def pred_conj_def])
+       apply (rule gen_asm_ev2_r')
+       apply (rule_tac R'="\<lambda> (r, ms') (r', ms'').  r = r' \<and> equiv_machine_state (aag_can_read aag)  ms' ms'' \<and> equiv_machine_state (aag_can_affect aag l) ms' ms'' \<and> equiv_irq_state ms' ms''" and Q="\<lambda> r s. st = s" and Q'="\<top>\<top>" and P="\<top>" and P'="\<top>" in equiv_valid_2_bind_pre)
```
Comment (Xaphiosis) [inline proof/infoflow/ARM/ArchInfoFlow_IF.thy]: I don't know if this is new or moved, but veeeeeery long lines in this proof

File: proof/infoflow/ARM/ArchInfoFlow_IF.thy [hunk 195]
```diff
@@ -82,6 +82,72 @@ lemma equiv_asids_guard_imp[InfoFlow_IF_assms]:
...
+  "no_fpu f"
+  by (simp add: no_fpu_def)
+
+lemmas equiv_arch_taut =
+  equiv_hyp_taut
+  equiv_fpu_taut
+  identical_hyp_states_updates_taut
+  identical_fpu_states_updates_taut
+  no_hyp_taut
+  no_fpu_taut
```
Comment (Xaphiosis) [inline proof/infoflow/ARM/ArchInfoFlow_IF.thy:130]: same as on RISCV64, would be nice to not have this mentioned in the interpretation

**Comment by Xaphiosis** [comment]
I missed where this happened exactly, but there were a couple of:
`using wellformed apply (clarsimp simp: associated_vcpu_invisible)` or similar uses of `using.*apply` which should end up on separate lines.

**Comment by Xaphiosis** [comment]
Done with review pass from my side. Overall, really nice work and thank you for all the cleanup and improvements (some of which I yoinked to be able to deal with Syscall_R). I would ask that this goes in after the Syscall_R arch-split PR, which I hope to be done with today or tomorrow.

There's mostly style stuff, mostly related to existing infoflow style. A few things to consider, especially the situation with those interface locale instantiations picking up increasing amounts of logic, which I really would prefer to be as non-thinking as possible.

File: proof/infoflow/Syscall_IF.thy (hunk 84 above)
Comment (Xaphiosis) [reply proof/infoflow/Syscall_IF.thy]: the diff is confusing, maybe you fixed it up in a subsequent commit... hmm

File: proof/infoflow/Finalise_IF.thy (hunk 86 above)
Comment (ryybrr) [reply proof/infoflow/Finalise_IF.thy:543]: Consistent with existing InfoFlow style. Will flag for future cleanup

File: proof/infoflow/AARCH64/ArchFinalise_IF.thy (hunk 127 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchFinalise_IF.thy:286]: Flagging for future cleanup as this is the current standard in InfoFlow (~700 instances)

File: proof/infoflow/FinalCaps.thy (hunk 87 above)
Comment (ryybrr) [reply proof/infoflow/FinalCaps.thy]: It was indeed. These lines were all pointless though, I've now removed them.

File: proof/infoflow/AARCH64/ArchRetype_IF.thy (hunk 94 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchRetype_IF.thy:42]: There is a lifting rule used. Is there any reason we'd keep `wp` in though?

File: proof/infoflow/AARCH64/ArchFinalCaps.thy (hunk 98 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchFinalCaps.thy:448]: Flagging this for future cleanup where we should standardise this across the security proofs

Comment (lsf37) [reply proof/infoflow/AARCH64/ArchFinalCaps.thy:448]: You can still add the end tag now, that doesn't hurt.

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 114 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy]: No, should be removed

File: proof/infoflow/AARCH64/ArchInfoFlow_IF.thy (hunk 159 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow_IF.thy:186]: Flagging for future cleanup to standardise this

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 176 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy:1269]: unification with schematics, fastforce is over-eager

File: proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy (hunk 186 above)
Comment (ryybrr) [reply proof/infoflow/refine/AARCH64/ArchADT_IF_Refine_C.thy:214]: No constant exists. This is how it appears in all specs

File: proof/infoflow/RISCV64/ArchUserOp_IF.thy (hunk 191 above)
Comment (ryybrr) [reply proof/infoflow/RISCV64/ArchUserOp_IF.thy:112]: This was the "least bad" option we decided on for the Access Control proofs back in the day. Introducing exact lemmas for every locale assumption over a trivial predicate feels tedious and brittle.

File: proof/infoflow/RISCV64/ArchInfoFlow_IF.thy (hunk 192 above)
Comment (ryybrr) [reply proof/infoflow/RISCV64/ArchInfoFlow_IF.thy:131]: Not true. Facts require an exact match, whereas resolution does not.
The lemmas here are extremely general and designed to discharge all locale assumptions involving the predicates (which are vacuously true on these architectures)

Comment (Xaphiosis) [reply proof/infoflow/RISCV64/ArchInfoFlow_IF.thy:131]: Roughly speaking, this needs discussion/justification or a comment, because your argument boils down to "the interface is different to the rules which satisfy it", which from a maintenance perspective is similar to "this happens to work, good luck figuring out why".
In this particular case the argument is that the rules are more generic than the interface. But then, why isn't the interface more generic? Why are these rules not the interface?

If we go along with this, what tactics will come along next? We have wpsimp, now rule. It would be good to be clear on what's going on here and when to stop. You might also have ideas on "where do we stop this train" before someone puts in fastforce;
@lsf37 might have more thoughts.

Comment (lsf37) [reply proof/infoflow/RISCV64/ArchInfoFlow_IF.thy:131]: I'm also not really comfortable with `wpsimp` already. The point of these interpretations was to just instantiate facts. If we have a more general rule, should we not repeat the interface form and prove that with `wpsimp` explicitly? Then if later something breaks, we can see what we were expecting and aren't getting a failure in a tactic combination that applies to multiple goals in the interface. It's more typing, but it is also really just copy/past from the interface locale.

I can see a simple instantiation or a deterministic rule application, but `wp` is already stretching it, and `wpsimp` definitely does for me.

File: proof/access-control/Access_AC.thy (hunk 83 above)
Comment (ryybrr) [reply proof/access-control/Access_AC.thy:642]: These were actually supposed to be under the comment below, thanks for spotting

File: proof/infoflow/AARCH64/ArchInfoFlow.thy (hunk 95 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchInfoFlow.thy:127]: Flagging for future cleanup PR

File: proof/infoflow/AARCH64/ArchIRQMasks_IF.thy (hunk 97 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchIRQMasks_IF.thy:295]: Same issue exists on other architectures, flagging for future cleanup PR

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 104 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:207]: Added fixme, flagged for future cleanup PR

File: proof/infoflow/AARCH64/ArchArch_IF.thy (hunk 123 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:3511]: Added fixme, flagging for future cleanup PR

File: proof/infoflow/refine/AARCH64/Example_Valid_StateH.thy (hunk 181 above)
Comment (ryybrr) [reply proof/infoflow/refine/AARCH64/Example_Valid_StateH.thy:28]: Flagging for future cleanup PR

File: proof/access-control/AARCH64/ArchArch_AC.thy (hunk 82 above)
Comment (ryybrr) [reply proof/access-control/AARCH64/ArchArch_AC.thy:2208]: Flagging for cleanup

File: proof/infoflow/RISCV64/ArchInfoFlow_IF.thy (hunk 192 above)
Comment (ryybrr) [reply proof/infoflow/RISCV64/ArchInfoFlow_IF.thy:131]: Flagging for cleanup

File: proof/infoflow/ARM/ArchInfoFlow_IF.thy (hunk 195 above)
Comment (ryybrr) [reply proof/infoflow/ARM/ArchInfoFlow_IF.thy:130]: Flagging for cleanup

File: proof/infoflow/AARCH64/ArchNoninterference.thy (hunk 171 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchNoninterference.thy:802]: Flagging for cleanup

File: proof/infoflow/AARCH64/ArchScheduler_IF.thy (hunk 180 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchScheduler_IF.thy:1555]: Flagging for cleanup

File: proof/infoflow/AARCH64/ArchADT_IF.thy (hunk 102 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchADT_IF.thy:111]: Flagging for cleanup. Might try to unify the names

File: proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy (hunk 188 above)
Comment (ryybrr) [reply proof/infoflow/refine/RISCV64/ArchADT_IF_Refine_C.thy]: Have swapped the direction and removed `simp`

**Review by lsf37 — APPROVED** [review]

**Comment by lsf37** [comment]
This is now good to merge from my side. We'll do a separate cleanup pass for some of style questions raised in the review.
